2113-02-01 07:28:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 BRONCHOSCOPY - At [**2113-1-31**] 05:03 PM
   -Late in afternoon final CT chest read came back as collapsed LLL and
   decision to proceed with bronchoscopy with hope of clearing secretions
   and improving aeration.  This was completed without incident.  Patient
   received 3mg midazolam IV for procedure.
   -Bronchoscopy revealed narrowed left lower mainstem bronchus ? external
   compression vs bronchiomalacia
   -Pt had been sleeping all day but as persistently sleepy in evening
   attempted to awake and assess mental status.  The patient would awaken,
   follow simple commands, and attempt to speek with some comprehensible
   sounds but still asleep much of the time.  Thus a blood gas was
   performed and showed worsened hypercarbia with ph 7.29 and PC02 of 68,
   repeat gas an hour later showed ph 7.26 and PCO2 of 74, flumazenil
   given and hypercarbia improved with CO2 of 59 but then worsened
   again,discussed case w/ Dr [**Last Name (STitle) 619**] who evaluated patient and proceeded
   to monitor throughout night and hold off intubation as there was never
   acute decompensation and PCO2 remained stable around 70 w/appropriate
   PO2
   -Daughter called EXTREMELY angry about respiratory failure and decision
   to proceed to bronch without her knowledge and consent particularly
   given concern for respiratory failure.  Reported intention to contact
   quality assurance, [**Name (NI) 98**] [**Name (NI) 2576**], etc
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2113-1-31**] 05:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-1-31**] 11:30 AM
   Azithromycin - [**2113-1-31**] 12:20 PM
   Vancomycin - [**2113-1-31**] 02:04 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2113-1-31**] 04:45 PM
   Heparin Sodium (Prophylaxis) - [**2113-1-31**] 10:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 69 (59 - 101) bpm
   BP: 120/63(77) {94/37(50) - 152/106(117)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,029 mL
                                                                     74 mL
   PO:
             TF:
   IVF:
                                                                  1,029 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    120 mL
   Urine:
                                                                  1,355 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   FiO2: 60
   SpO2: 99%
   ABG: 7.27/70/184/30/3
   PaO2 / FiO2: 460
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular:  (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous )
   Abdomen: Patient makes some signs of distress with pressure on right
   lower quadrant, no guarding or rebound, nondistended; Few bowel sounds
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Increased
   Labs / Radiology
   167 K/uL
   9.4 g/dL
   80 mg/dL
   2.2 mg/dL
   30 mEq/L
   4.0 mEq/L
   38 mg/dL
   106 mEq/L
   146 mEq/L
   30.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2113-1-31**]  10:07 AM
                             [**2113-1-31**]  09:12 PM
                             [**2113-1-31**]  10:34 PM
                             [**2113-2-1**]  12:00 AM
                             [**2113-2-1**]  01:11 AM
                             [**2113-2-1**]  02:20 AM
                             [**2113-2-1**]  03:43 AM
                             [**2113-2-1**]  04:35 AM
   WBC
   9.8
   Hct
   30.0
   Plt
   167
   Cr
   2.2
   TCO2
   32
   34
   35
   33
   35
   34
   34
   Glucose
   80
   Other labs: PT / PTT / INR:12.9/28.4/1.1, Differential-Neuts:73.9 %,
   Lymph:20.2 %, Mono:3.9 %, Eos:1.7 %, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   IMPRESSION: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   # Hypercarbia: Patient with Hypercarbic respiratory failure yesterday
   of unclear etiology.  Given no know neuromuscular disease, chest wall
   compliance issues, rib fractures, or other mechanical issues that would
   lead to acute change in ability to ventilate suspect central
   hypoventilation.  This could have been precipitated by midazolam but
   may have achieved self-perpetuating status due to depressed MS due to
   hypercarbia explaining inadequate response to BZD reversal.
   -Patient will be intubated for persistent hypercarbia, as this is
   presumed central with holding of sedating meds and correction of
   hypercarbia respiratory drive should resume and this should resolve.
   -Avoid sedating meds
   # Hypoxia: Patient with collapsed left lower lobe and narrowing of
   airways to left lower and right middle lobes.   Bronchoscopy performed
   yesterday with some improvement and removal of secretions.  Still, CXR
   not clearly demonstrating improvement in collapsed lobe.
   - Treat presumed pneumonia w/ pip-tazobactam,  vancomycin, and
   azithromycin
   -Would want to obtain CT chest w/ contrast to evaluate for external vs
   internal airway compromise when patient
s renal function has stabilized
   - pan culture  if febrile (blood, sputum, re-send urine)
   -f/u oxygenation with ABG
   -Hold off on CT  chest w/ contrast for the moment to avoid contrast
   load given [**Last Name (LF) **], [**First Name3 (LF) 178**] try to obtain after stable
   # Acute Kidney Injury on Chronic Kidney Disease: Etiology unclear
   though possibility of pre-renal, infection, and hypotensive insults
   yesterday (SBP
s only dropped to 90
s but possibly could hypoperfuse in
   context of atherosclerosis).
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   -NS at 100 ml/hr *1000ml
   -F/U urine culture
   #  Abdominal Pain/No stools overnight:  Belly is still soft and bowel
   sounds present but given tenderness and hx multiple surgeries would
   have concern for SBO or other process.
   -KUB obtained, will f/u read
   -F/u exams and if worsen proceed to CT with PO contrast
   # Delirium: Patient currently sedated and thus not manifesting
   delirium.  Given infiltrates pulmonary infection most likely source of
   delirium.   Patient is not combative or a danger to himself or to
   lines.
   - treat underlying cause (infection) and respiratory derangements
   # Leukocytosis: Improved w/o bands, possibly sign of improvement of
   infectious process.
   # History of Afib/HTN: Continue metoprolol in order to avoid risks of
   Afib with RVR with good holding parameters
   # FEN: NPO, will attempt to obtain OG and discuss tube feeds
   # PPx: heparin SC and continue PPI
   # Access: Has one PIV currently will attempt to get additional PIV (and
   consider A-line for ABG
s and follow oxygenation and CO2), as will need
   long-term IV antibiotics we will have a PICC placed
   # Communication: Given family concerns about communications and
   patient
s care will speak to pt relations about best course to pursue.
   Consider SW c/s as well given past relationship with family.
   # CODE: FULL
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-01 09:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2113-1-31**] 05:03 PM--Perfomed after CT results
   final demonstrating multiple airways with complete obstruction and
   significant concern for compression.  He had Bronchoscopy performed
   which revealed significant narrowing at the level of the left lower
   lobe and right middle lobe.  Distal to the narrowing there was
   signficiant secretions seen which were cleared.  He maintained
   excellent saturations throughout procedure with SaO2 >90% throughout.
   COMMUNICATION--Although bronchoscopy was part of ICU consent which was
   discussed, patient's family was contact[**Name (NI) **] immediately prior to
   procedure by medical team but not fellow/attending.  Patient family
   members expressed significant frustration and concern that procedure
   was not discussed with them prior to procedure by attending/fellow.
   They also raised the question of sedating medications contributing to
   worsening respiratory status.  I discussed with them upon arrival this
   morning that I regretted not discussing the procedure with them
   immediately prior to performing bronchoscopy but that the indications
   were clear given the evidence of mucus impaction which was seen on CT
   scan and need to evaluate the nature of obstruction and work to improve
   ventilation and oxygenation.  The issues around bronchoscopy performed
   were discussed in detail with the patient
s health care proxy
   immediately following procedure yesterday by the pulmonary fellow and
   all questions were answered and the plan for follow up CT scan was
   discussed when possible.
   WORSENING HYPOXEMIA--Patient with persistent hypercarbia and hypoxemia
   overnight.  He was given flumazenil for attempt to reverse any residual
   effects of benzodiazepine medications with little response.  Patient
   with persistent hypoxemia/hypercarbia/secretions and poor mental status
   this morning. Intubation indicated and discussed with daughter
s x2 and
   agreement for intubation reached with goal of short term trial but not
   to move for prolonged course of trach or chronic ventilation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2113-1-31**] 05:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-1-31**] 11:30 AM
   Azithromycin - [**2113-1-31**] 12:20 PM
   Vancomycin - [**2113-2-1**] 07:56 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2113-1-31**] 04:45 PM
   Heparin Sodium (Prophylaxis) - [**2113-1-31**] 10:46 PM
   Pantoprazole (Protonix) - [**2113-2-1**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-1**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.3
C (95.6
   HR: 65 (55 - 101) bpm
   BP: 111/50(65) {94/37(50) - 152/106(117)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,029 mL
                                                                    297 mL
   PO:
             TF:
   IVF:
                                                                  1,029 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    136 mL
   Urine:
                                                                  1,355 mL
                                                                    136 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.27/70/184/30/3
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: ), Increased use of accessory muscles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   167 K/uL
   80 mg/dL
   2.2 mg/dL
   30 mEq/L
   4.0 mEq/L
   38 mg/dL
   106 mEq/L
   146 mEq/L
   30.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2113-1-31**]  10:07 AM
                             [**2113-1-31**]  09:12 PM
                             [**2113-1-31**]  10:34 PM
                             [**2113-2-1**]  12:00 AM
                             [**2113-2-1**]  01:11 AM
                             [**2113-2-1**]  02:20 AM
                             [**2113-2-1**]  03:43 AM
                             [**2113-2-1**]  04:35 AM
   WBC
   9.8
   Hct
   30.0
   Plt
   167
   Cr
   2.2
   TCO2
   32
   34
   35
   33
   35
   34
   34
   Glucose
   80
   Other labs: PT / PTT / INR:12.9/28.4/1.1, Differential-Neuts:73.9 %,
   Lymph:20.2 %, Mono:3.9 %, Eos:1.7 %, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.9 mg/dL
   Imaging: CXR--Poor quality film with persistent and bilateral lower
   lobe opacities consistent with infiltrate/collapse and possible small
   effusion.
   Microbiology: BA:--4+ GPC's in bronchoscopy
   Assessment and Plan
   82 yo male admit with altered mental status and admit to ICU with
   altered mental status and likely aspiration pneumonia.
   1)Respiratory Failure-  This is combined hypercarbic and hypoxemic
   respiratory secondary to hypercarbic respiratory secondary due
   respiratory depression in the setting of CO2 narcosis and his
   persistent hypoxemia is likely related to the aspiraiton pneumonia and
   persistent secretions unable to be cleared.
   -A/C to ventilate to target PCO2 of 45
   -Continue with frequent suctioning
   -Continue with Vanco/Zosyn
   -Will place A-line for ABG monitoring
   2) PNEUMONIA, ASPIRATION-
   -Continue with Vanco/Zosyn
   -Will follow up with culture results from CT scan
   3)Acute Renal Failure-
   -Will hold on IV contast at this time given worsening renal function
   -There is clearly a component of pre-renal insult
   -Renal dose all medications
   -Check U/A and FeNa to confirm likely pre-renal state
   -Urine flow reasonable
   -Foley in place
   4)Abdominal Pain-
   -KUB this morning
   -Follow exam which will be difficult
   -Will re-evaluate on KUB for possible obstruction and consider CT
   abdomen as possible if symptoms worsening or with concerning findings
   on KUB
   5)H/O ALTERED MENTAL STATUS (NOT DELIRIUM)-_Remains likely in the
   setting of CVA and hypoxemia/hypercarbia and renal failure.  Will have
   to minimize any sedating medications.
   -Follow exam
   -Minimize sedating medications as possibl
   -CT if acute worsening seen
   ICU Care
   Nutrition: --Return to TF
s when possible in the setting of intubation,
   IVF to continue with maintenance IVF
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
increase P-IV
s and perform PICC
   Prophylaxis:
   DVT: Hep sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 75 minutes

2113-02-02 07:50:00 Physician Resident Progress Note
Chief Complaint: Altered mental status and hypoxia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-2-1**] 08:55 AM
 ARTERIAL LINE - START [**2113-2-1**] 12:06 PM
 MULTI LUMEN - START [**2113-2-1**] 12:30 PM
   -Intubated in am for hypercarbia.
   - On fentanyl and later versed gtt used for sedation. Note: v sensitive
   to fentanyl
   -Bolused 3.5 L NS for hypotension
   - U/A dirty. FeNA 0.4- prerenal and dry
   - Talked to rads re: compressed bronchi seen on BAL yesterday. States
   likely malacia and collapse. Can try to aerate lobes (LLL) and can re
   CT in a couple days. No likely mass compressing bronchi
   - Vanco level 11.6 this am. Dosing 1g Q 24hrs
   - SW and pt relations involved
   - CVL and A line placed by fellow
   - 5pm gas: 7.45 37 117
   -am lactate 0.8
   -started on metoprolol 5mg iv q6hr
   -nutrition consulted for tube feeding recs
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2113-1-31**] 05:50 AM
   Vancomycin - [**2113-2-1**] 07:56 AM
   Azithromycin - [**2113-2-1**] 10:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-2**] 05:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-1**] 07:55 AM
   Lorazepam (Ativan) - [**2113-2-1**] 12:30 PM
   Midazolam (Versed) - [**2113-2-1**] 07:47 PM
   Fentanyl - [**2113-2-1**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-2**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.6
C (96
   HR: 66 (51 - 78) bpm
   BP: 124/50(73) {103/38(56) - 164/74(107)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 7 (4 - 7)mmHg
   Total In:
                                                                  5,842 mL
                                                                  1,951 mL
   PO:
   TF:
   IVF:
                                                                  5,842 mL
                                                                  1,951 mL
   Blood products:
   Total out:
                                                                    421 mL
                                                                     96 mL
   Urine:
                                                                    421 mL
                                                                     96 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,421 mL
                                                                  1,855 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/37/86/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, colostomy in place
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Increased
   Labs / Radiology
   147 K/uL
   8.0 g/dL
   126 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.1 mEq/L
   37 mg/dL
   109 mEq/L
   141 mEq/L
   24.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2113-2-1**]  12:00 AM
                             [**2113-2-1**]  01:11 AM
                             [**2113-2-1**]  02:20 AM
                             [**2113-2-1**]  03:43 AM
                             [**2113-2-1**]  04:35 AM
                             [**2113-2-1**]  10:59 AM
                             [**2113-2-1**]  04:57 PM
                             [**2113-2-2**]  03:16 AM
                             [**2113-2-2**]  03:42 AM
                             [**2113-2-2**]  06:28 AM
   WBC
   9.8
   6.6
   Hct
   30.0
   24.7
   Plt
   167
   147
   Cr
   2.2
   2.0
   TCO2
   33
   35
   34
   34
   29
   27
   26
   26
   Glucose
   80
   126
   Other labs: PT / PTT / INR:13.3/31.9/1.1, Differential-Neuts:64.9 %,
   Lymph:26.2 %, Mono:4.8 %, Eos:3.8 %, Lactic Acid:0.8 mmol/L, LDH:172
   IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercarbia: Patient with Hypercarbic respiratory failure yesterday
   of unclear etiology.  Given no know neuromuscular disease, chest wall
   compliance issues, rib fractures, or other mechanical issues that would
   lead to acute change in ability to ventilate suspect central
   hypoventilation.  This could have been precipitated by midazolam but
   may have achieved self-perpetuating status due to depressed MS due to
   hypercarbia explaining inadequate response to BZD reversal.
   -Patient will be intubated for persistent hypercarbia, as this is
   presumed central with holding of sedating meds and correction of
   hypercarbia respiratory drive should resume and this should resolve.
   -Avoid sedating meds
   # Hypoxia: Patient with collapsed left lower lobe and narrowing of
   airways to left lower and right middle lobes.   Bronchoscopy performed
   yesterday with some improvement and removal of secretions.  Still, CXR
   not clearly demonstrating improvement in collapsed lobe.
   - Treat presumed pneumonia w/ pip-tazobactam,  vancomycin, and
   azithromycin
   -Would want to obtain CT chest w/ contrast to evaluate for external vs
   internal airway compromise when patient
s renal function has stabilized
   - pan culture  if febrile (blood, sputum, re-send urine)
   -f/u oxygenation with ABG
   -Hold off on CT  chest w/ contrast for the moment to avoid contrast
   load given [**Last Name (LF) **], [**First Name3 (LF) 178**] try to obtain after stable
   # Acute Kidney Injury on Chronic Kidney Disease: Etiology unclear
   though possibility of pre-renal, infection, and hypotensive insults
   yesterday (SBP
s only dropped to 90
s but possibly could hypoperfuse in
   context of atherosclerosis).
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   -NS at 100 ml/hr *1000ml
   -F/U urine culture
   #  Abdominal Pain/No stools overnight:  Belly is still soft and bowel
   sounds present but given tenderness and hx multiple surgeries would
   have concern for SBO or other process.
   -KUB obtained, will f/u read
   -F/u exams and if worsen proceed to CT with PO contrast
   # Delirium: Patient currently sedated and thus not manifesting
   delirium.  Given infiltrates pulmonary infection most likely source of
   delirium.   Patient is not combative or a danger to himself or to
   lines.
   - treat underlying cause (infection) and respiratory derangements
   # Leukocytosis: Improved w/o bands, possibly sign of improvement of
   infectious process.
   # History of Afib/HTN: Continue metoprolol in order to avoid risks of
   Afib with RVR with good holding parameters
   # FEN: NPO, will attempt to obtain OG and discuss tube feeds
   # PPx: heparin SC and continue PPI
   # Access: Has one PIV currently will attempt to get additional PIV (and
   consider A-line for ABG
s and follow oxygenation and CO2), as will need
   long-term IV antibiotics we will have a PICC placed
   # Communication: Given family concerns about communications and
   patient
s care will speak to pt relations about best course to pursue.
   Consider SW c/s as well given past relationship with family.
   # CODE: FULL
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
   18 Gauge - [**2113-2-1**] 11:00 AM
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-02 11:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Aspiration Pneumonia
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-2-1**] 08:55 AM
 ARTERIAL LINE - START [**2113-2-1**] 12:06 PM
 MULTI LUMEN - START [**2113-2-1**] 12:30 PM
   Patient with good stability of blood pressue and oxygenation with IVF
   replacment
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2113-1-31**] 05:50 AM
   Vancomycin - [**2113-2-1**] 07:56 AM
   Azithromycin - [**2113-2-2**] 08:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-2**] 09:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-2-1**] 12:30 PM
   Midazolam (Versed) - [**2113-2-1**] 07:47 PM
   Fentanyl - [**2113-2-1**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-2**] 06:00 AM
   Pantoprazole (Protonix) - [**2113-2-2**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-2**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 58 (51 - 78) bpm
   BP: 102/44(62) {102/38(56) - 164/74(107)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 8 (4 - 8)mmHg
   Total In:
                                                                  5,842 mL
                                                                  2,588 mL
   PO:
   TF:
   IVF:
                                                                  5,842 mL
                                                                  2,408 mL
   Blood products:
   Total out:
                                                                    421 mL
                                                                    191 mL
   Urine:
                                                                    421 mL
                                                                    191 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,421 mL
                                                                  2,397 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/37/86/24/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   147 K/uL
   126 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.1 mEq/L
   37 mg/dL
   109 mEq/L
   141 mEq/L
   24.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2113-2-1**]  12:00 AM
                             [**2113-2-1**]  01:11 AM
                             [**2113-2-1**]  02:20 AM
                             [**2113-2-1**]  03:43 AM
                             [**2113-2-1**]  04:35 AM
                             [**2113-2-1**]  10:59 AM
                             [**2113-2-1**]  04:57 PM
                             [**2113-2-2**]  03:16 AM
                             [**2113-2-2**]  03:42 AM
                             [**2113-2-2**]  06:28 AM
   WBC
   9.8
   6.6
   Hct
   30.0
   24.7
   Plt
   167
   147
   Cr
   2.2
   2.0
   TCO2
   33
   35
   34
   34
   29
   27
   26
   26
   Glucose
   80
   126
   Other labs: PT / PTT / INR:13.3/31.9/1.1, Differential-Neuts:64.9 %,
   Lymph:26.2 %, Mono:4.8 %, Eos:3.8 %, Lactic Acid:0.8 mmol/L, LDH:172
   IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR-[**2113-2-1**]--
   IMproved aeration of LLL region
   Assessment and Plan
   82 yo male with admission with altered mental status and concern for
   significant aspiration and central airways obstruciton with secretions
   leading to respiratory failure.  He has had worsening renal function in
   the setting of pre-renal azotemia but now with volume replacement has
   had some improvement in Cr overnight.  In regards to his respiratory
   failure he has had some
   Respiratory Failure-Was primary issue of pulmonary
   infiltrates--primarily collapse and with central airway obstruction
   with focal secretions.  He has had substantial improvement in airation
   of left low lower lobe.  Patient with decreased secreation volume and
   yellow in color.  Has not had evidence of worsening pulmonary infection
   and actually has had significant trend to improvement.  Clearly has
   adequate alertness this morning
   -PSV trial today
   -Extubation to be limited by mental status and secretion volume
   -Repeat CXR today
   Acute Renal Failure-
   -Improved Cr
   -Continue with volume replacement
 HYPOTENSION (NOT SHOCK)
   -Levophed weaned to off
   -Likley pre-renal and combined with vasodilatory effects of sedating
   medications did move to transient hypotension.
 PNEUMONIA, ASPIRATION
   -Azithromycin/Zosyn/Vanco
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Much improved with stabilization of metabolic  insult with hypercarbia
   and renal failure
   -Wean sedation when moving toward extubation
   ICU Care
   Nutrition: NPO today
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
   18 Gauge - [**2113-2-1**] 11:00 AM
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2113-02-03 07:44:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure, delirium
   24 Hour Events:
   -d/c'd metoprolol 5mg iv q6hr and started metoprolol 12.5 po bid
   -On pressure support of [**10-2**], became hypercapnic, and was put back on
   AC.
   -Still having lots of purulent secretions
   -Started on tube feeds
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-1**] 07:56 AM
   Azithromycin - [**2113-2-2**] 08:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-3**] 03:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-2**] 07:48 AM
   Metoprolol - [**2113-2-2**] 10:33 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-3**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-3**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 57 (57 - 72) bpm
   BP: 140/60(87) {102/44(62) - 167/71(106)} mmHg
   RR: 14 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
    CVP: 4 (4 - 10)mmHg
   Total In:
                                                                  3,883 mL
                                                                    239 mL
   PO:
   TF:
                                                                     40 mL
                                                                     76 mL
   IVF:
                                                                  3,664 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                    574 mL
                                                                    490 mL
   Urine:
                                                                    574 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,309 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 549 (549 - 549) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.41/36/135/21/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Crackles : , Bronchial: few bronchial breath
   sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, colostomy in place
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   144 K/uL
   8.1 g/dL
   86 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.5 mEq/L
   36 mg/dL
   114 mEq/L
   142 mEq/L
   25.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2113-2-1**]  10:59 AM
                             [**2113-2-1**]  04:57 PM
                             [**2113-2-2**]  03:16 AM
                             [**2113-2-2**]  03:42 AM
                             [**2113-2-2**]  06:28 AM
                             [**2113-2-2**]  01:25 PM
                             [**2113-2-2**]  01:35 PM
                             [**2113-2-2**]  04:28 PM
                             [**2113-2-2**]  09:12 PM
                             [**2113-2-3**]  04:31 AM
   WBC
   6.6
   5.4
   Hct
   24.7
   25.6
   Plt
   147
   144
   Cr
   2.0
   2.1
   1.9
   TCO2
   29
   27
   26
   26
   25
   26
   24
   Glucose
   126
   136
   86
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.8 mmol/L, LDH:172
   IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Microbiology:
Expectorated Sputum
GRAM STAIN (Final [**2113-1-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      SMEAR REVIEWED; RESULTS CONFIRMED.
   RESPIRATORY CULTURE (Preliminary):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    MODERATE GROWTH.
Bronchial Washings:
GRAM STAIN (Final [**2113-1-31**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   SQUAMOUS EPITHELIAL CELLS.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Final [**2113-2-2**]):
      10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    >100,000 ORGANISMS/ML..
         SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 7921**] ([**2113-1-31**]).
RPR on [**2113-1-30**]: Nonreactive
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
    # Hypercarbia: The patient was intubated for hypoventilatory
   hypercarbic respiratory failure presumably due to decreased central
   drive possibly precipitated by midazolam.  With ventilatory support
   this has resolved.  Mental status has improved and probably can work
   toward extubation as impetus for respiratory failure has resolved.
   -Attempt trial of pressure support and follow ABG
   # Hypoxia: Patient
s hypoxia presumably due to collapsed left lower
   lobe, which appears improved on today
s CXR.  The patient also had
   possible pneumonia/vs aspiration pneumonitis.   Currently, he is well
   oxygenated with ventilation but will recheck on pressure support later
   today.
   -Wean ventilator per above with goal of extubation tomorrow, recheck
   ABG after switch to PS
   - Treat presumed pneumonia w/ pip-tazobactam,  vancomycin, and
   azithromycin
   - pan culture  if febrile (blood, sputum, re-send urine)
   -spoke to radiology who feel unlikely there is external compression of
   airway but cannot r/o; deferring exam for the moment until renal
   function improved
    # Acute Kidney Injury on Chronic Kidney Disease: FeNa of 0.4 most c/w
   prerenal [**Last Name (un) **] though possible element of ATN as well.  Cr improved
   slightly today to 2 from 2.2.
   -Renally dose medications
    -avoid nephrotoxins (i.e. IV contrast)
   -NS at 100 ml/hr *1000ml
   -F/U urine culture
   -monitor urine output
   #Pyuria: Patient with probable UTI given pyuria and leukocyte
   esterase.  Organism should be covered with pneumonia regimen but
   following cultures.
   -F/U urine cultures.
    #  Abdominal Pain: Patient denying abdominal pain this AM and softer
   abdominal exam with more bowel sounds.  Will defer abdominal imaging
   for the moment given concern about IV contrast and likely minimal
   utility without as less concerned about luminal process.
   # Delirium: Patient currently sedated and thus not manifesting
   delirium.  Given infiltrates pulmonary infection most likely source of
   delirium.   Patient is not combative or a danger to himself or to
   lines.
   - treat underlying cause (infection) and respiratory derangements
   # Leukocytosis: Improved w/o bands, possibly sign of improvement of
   infectious process.
   # History of Afib/HTN: Continue metoprolol in order to avoid risks of
   Afib with RVR with good holding parameters
   # FEN: NPO, will attempt to obtain OG and discuss tube feeds
   # PPx: heparin SC and continue PPI
   # Access: Has one PIV currently will attempt to get additional PIV (and
   consider A-line for ABG
s and follow oxygenation and CO2), as will need
   long-term IV antibiotics we will have a PICC placed
   # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
   # DISPO: ICU
   )
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-2**] 08:03 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
   18 Gauge - [**2113-2-1**] 11:00 AM
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-03 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -_Patient with worsening hypercarbia across the day and had only mild
   elevation in RR across the day raising the concern for persistnet
   impairment in ventilatory drive--which may be related to and
   independent of sedating medications in place.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-3**] 08:14 AM
   Azithromycin - [**2113-2-3**] 09:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-3**] 10:00 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2113-2-2**] 10:33 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-3**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-3**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 57 (56 - 72) bpm
   BP: 115/51(72) {108/49(67) - 167/71(106)} mmHg
   RR: 14 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
   CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  3,883 mL
                                                                  1,039 mL
   PO:
   TF:
                                                                     40 mL
                                                                    128 mL
   IVF:
                                                                  3,664 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                    574 mL
                                                                    805 mL
   Urine:
                                                                    574 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,309 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 549 (549 - 549) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.41/36/135/21/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: Decreased Ronchi Noted)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   144 K/uL
   86 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.5 mEq/L
   36 mg/dL
   114 mEq/L
   142 mEq/L
   25.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2113-2-1**]  10:59 AM
                             [**2113-2-1**]  04:57 PM
                             [**2113-2-2**]  03:16 AM
                             [**2113-2-2**]  03:42 AM
                             [**2113-2-2**]  06:28 AM
                             [**2113-2-2**]  01:25 PM
                             [**2113-2-2**]  01:35 PM
                             [**2113-2-2**]  04:28 PM
                             [**2113-2-2**]  09:12 PM
                             [**2113-2-3**]  04:31 AM
   WBC
   6.6
   5.4
   Hct
   24.7
   25.6
   Plt
   147
   144
   Cr
   2.0
   2.1
   1.9
   TCO2
   29
   27
   26
   26
   25
   26
   24
   Glucose
   126
   136
   86
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.8 mmol/L, LDH:172
   IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--ETT, CVL, OGt in good position, minimal change in
   bilateral and lower lobe infiltrates/collapse
   Microbiology: Sputum-[**1-31**]
   Oral Flora and Coag pos Staph
   BAL-
   Coag + Staph Aureus
   Assessment and Plan
   82 yo male with prolonged hospital course and now with hypercarbic
   respiratory failure and improved hypoxemia in the setting of
   ventilatory support.  He does have concerning and persistent
   hypercarbia during wean to PSV mode of support.  This may represent
   inability to generate adequate RR in
   Respiratory Failure-_This is multifactorial--he has significant central
   airway obstruction with mucus--which has been relieved.  He has lower
   lobe collapse which has improved substantially with time with PEEP.
   He, however, has time of progression on PSV where he has evolution of
   significant hypercarbia with only relatively minimal changes in RR
   suggesting both a component of central and peripheral sources of
   hypercarbia.
   -Wean Fentanyl to off
   -Return to PSV trial today
   -maintain fluid balance even
   -Continue antibiotics
   -Ventilatory Simulants would carry signficant risk in terms of SE
s and
   will hold for now
 HYPOTENSION (NOT SHOCK)-
   Off pressors
   Keep I/O even
 PNEUMONIA, ASPIRATION
and S. Aureus PNA
   -Vanco/Zosyn
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   Acute Renal Failure
Likely a combination of per-renal Azotemia and
   component of ATN
   -CVP=10
   -U/O has been 10-30 cc/hr
   -Renal dose all medications
   -Cr may have plateau at 2.0 today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-2**] 08:03 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
   18 Gauge - [**2113-2-1**] 11:00 AM
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Daughter updated for
   Code status: Full code
   Disposition :ICU
   Total time spent: 49 minutes

2113-02-04 08:25:00 Physician Resident Progress Note
Chief Complaint: Hypoxemia, Pneumonia
   24 Hour Events:
   -Somnolent in AM, turned off sedation and attempted PS trial in
   evening, unfortunately increasingly hypercarbic so put back on AC and
   on very light sedation overnight
   -Plan to do extreme wean of sedation on [**2113-2-4**] and attempt to extubate
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2113-2-3**] 09:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-4**] 04:19 AM
   Vancomycin - [**2113-2-4**] 07:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-4**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-4**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 73 (54 - 73) bpm
   BP: 188/78(121) {108/49(67) - 188/78(121)} mmHg
   RR: 16 (12 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 6 (4 - 11)mmHg
   Total In:
                                                                  1,736 mL
                                                                    482 mL
   PO:
   TF:
                                                                    575 mL
                                                                    133 mL
   IVF:
                                                                    971 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  1,333 mL
                                                                    540 mL
   Urine:
                                                                    883 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    403 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 249 (249 - 509) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/39/111/23/0
   NIF: -8 cmH2O
   Ve: 8.1 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   8.2 g/dL
   116 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.7 mEq/L
   32 mg/dL
   111 mEq/L
   141 mEq/L
   25.8 %
   5.2 K/uL
        [image002.jpg]
                             [**2113-2-2**]  06:28 AM
                             [**2113-2-2**]  01:25 PM
                             [**2113-2-2**]  01:35 PM
                             [**2113-2-2**]  04:28 PM
                             [**2113-2-2**]  09:12 PM
                             [**2113-2-3**]  04:31 AM
                             [**2113-2-3**]  05:11 PM
                             [**2113-2-3**]  06:21 PM
                             [**2113-2-4**]  03:48 AM
                             [**2113-2-4**]  04:20 AM
   WBC
   5.4
   5.2
   Hct
   25.6
   25.8
   Plt
   144
   151
   Cr
   2.1
   1.9
   1.9
   TCO2
   26
   25
   26
   24
   23
   25
   24
   Glucose
   136
   86
   116
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.8 mmol/L, LDH:172
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR [**2113-2-3**]:
   IMPRESSION: AP chest compared to [**1-29**] through [**2-2**]:
   Small right pleural effusion has increased, bibasilar consolidation is
   unchanged since [**2-1**]. Upper lungs are clear. Heart is top normal
   size.  Mediastinal venous engorgement suggests elevated central venous
   pressure. ET tube and right supraclavicular central venous line are in
   standard placements.  Nasogastric tube passes into the stomach and out
   of view. No pneumothorax.
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
    # Hypercarbia: The patient was intubated for hypoventilatory
   hypercarbic respiratory failure presumably due to decreased central
   drive possibly precipitated by midazolam.  With ventilatory support
   this has resolved.  Mental status has improved and overall appearance
   of lung fields/other symptoms resolving.  Had been on steadily
   decreasing amounts of sedating meds but received more just prior to
   rounds.
   -Turn off midazolam/fentanyl and attempt pressure support trial in [**4-2**]
   hrs.
   # Hypoxia: Patient
s hypoxia presumably due to collapsed left lower
   lobe most likley due to staph aureus pneumonia and likely a  mucus
   plug.  This continues to appear to be improved.     Currently, he is
   well oxygenated with ventilation.  .
   -Continue vancomycin and cefepime pending final culture results
   -Intend for 7 day course of therapy for pneumonia, will hope to d/c
   pip-tazobactam after final respiratory cultures negative
    # Acute Kidney Injury on Chronic Kidney Disease: FeNa of 0.4 most c/w
   prerenal [**Last Name (un) **] though possible element of ATN as well (given muddy brown
   casts) Cr improved slightly today to <2.
   -Renally dose medications
    -avoid nephrotoxins (i.e. IV contrast)
   -Avoid further fluids given appearance of increased pulmonary edema on
   radiographs
   -F/U urine culture
   -monitor urine output
   #Pyuria: Patient with probable UTI given pyuria and leukocyte
   esterase.  Organism should be covered with pneumonia regimen but
   following cultures.
   -F/U urine cultures.
    #  Abdominal Pain: Patient denying abdominal pain this AM and softer
   abdominal exam with more bowel sounds.  Will defer abdominal imaging
   for the moment given concern about IV contrast and likely minimal
   utility without as less concerned about luminal process.
   # Delirium: Patient currently sedated and thus not manifesting
   delirium.  Given infiltrates pulmonary infection most likely source of
   delirium.   Patient is not combative or a danger to himself or to
   lines.
   - treat underlying cause (infection) and respiratory derangements
   # Leukocytosis: Improved w/o bands, infectious process seems to be
   resolving.
   # History of Afib/HTN: Continue metoprolol with good holding parameters
   in order to avoid risks of Afib with RVR.
   # FEN: Tube feeds, no IV fluids for the moment
   # [**Name2 (NI) 1512**]: heparin SC and continue PPI
   # Access: R IJ, A-line, PIV
   # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
   # DISPO: ICU
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-04 09:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with sedation weaned to off and with PSV had increased CO2
   patient had NIF that was low but very poor effort
   Urine output increased to 1 liter over 24 hours
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2113-2-3**] 09:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-4**] 04:19 AM
   Vancomycin - [**2113-2-4**] 07:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-4**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2113-2-4**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 73 (54 - 73) bpm
   BP: 188/78(121) {108/49(67) - 188/78(121)} mmHg
   RR: 16 (12 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 6 (4 - 11)mmHg
   Total In:
                                                                  1,736 mL
                                                                    488 mL
   PO:
   TF:
                                                                    575 mL
                                                                    133 mL
   IVF:
                                                                    971 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                  1,333 mL
                                                                    540 mL
   Urine:
                                                                    883 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    403 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 249 (249 - 509) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/39/111/23/0
   NIF: -8 cmH2O
   Ve: 8.9 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Arousable
   Labs / Radiology
   8.2 g/dL
   151 K/uL
   116 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.7 mEq/L
   32 mg/dL
   111 mEq/L
   141 mEq/L
   25.8 %
   5.2 K/uL
        [image002.jpg]
                             [**2113-2-2**]  06:28 AM
                             [**2113-2-2**]  01:25 PM
                             [**2113-2-2**]  01:35 PM
                             [**2113-2-2**]  04:28 PM
                             [**2113-2-2**]  09:12 PM
                             [**2113-2-3**]  04:31 AM
                             [**2113-2-3**]  05:11 PM
                             [**2113-2-3**]  06:21 PM
                             [**2113-2-4**]  03:48 AM
                             [**2113-2-4**]  04:20 AM
   WBC
   5.4
   5.2
   Hct
   25.6
   25.8
   Plt
   144
   151
   Cr
   2.1
   1.9
   1.9
   TCO2
   26
   25
   26
   24
   23
   25
   24
   Glucose
   136
   86
   116
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.8 mmol/L, LDH:172
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR--ETT, CVL and OGT in good position.  Small but persistent
   right sided opacity with pleural fluid and parenchymal opacity.
   Microbiology: Sputum-GPC--S. Aureus--Coag pos--MRSA
   Assessment and Plan
   82 yo male admit to ICU with hypercarbic respiratory failiure.  He now
   has persistent issues with continued and recurrent hypercarbic
   respiratory failure with move to PSV mode of support.  This is in the
   setting of minimal sedation and stabilization of renal function.  He
   has persistent ventilatory failure despite stabilization of renal
   function, continued oral secreations but small amounts from ETT,
   minization of sedation.  He this morning expressed that he would want
   the breathing tube out even though he would die this morning.  This is
   with sedation recently discontinued and patient clearly following
   commands and answering questions.  Sedation off x 5 hours.
   1)Respiratory Failure-
   -PSV trial today and re-evaluate ABG
   -Some improvement in secretions today with Vanco/Zosyn for ABX
   -Minimal evidence of bronchospasm as a source of hypercarbia
   -He has adeaute motor strength to trigger ventilator
   -Target PCO2-45-50 on ventilator
   -NIF of -8 must be considered
   -With extubation would need to consider role of BIPAP or return to
   mechanical ventilation
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
   -Vanco/Zosyn
on day #4
   -Will follow up with culture results
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Narcotics off
   -Minimize sedation
   Acute Renal Failure-
   -Continue with maintenance fluids across today
   -Follow Cr tomorrow
   ICU Care
   Nutrition: TF
s to start
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-1-31**] 04:01 AM
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-02-05 07:50:00 Physician Resident Progress Note
Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
 THORACENTESIS - At [**2113-2-4**] 07:32 PM
   [**2113-2-3**]:
   -Somnolent in AM, turned off sedation and attempted PS trial in
   evening, unfortunately increasingly hypercarbic so put back on AC and
   on very light sedation overnight
   -Plan to do extreme wean of sedation on [**2113-2-4**] and attempt to extubate
   __________________________________________________
   [**2113-2-4**]
   - In evening, [**Female First Name (un) **] done by Dr. [**Last Name (STitle) 984**] removing 1L straw colored
   fluid. LDH 82, Total protein 2.9. WBC 1100 RBC 3725 PH 7.4. Getting LDH
   and total protein in am.
   - Sedation turned off in am and pt awake during day and communicating
   well with family and staff. Needed 1mg Ativan IV x1 overnight for
   sedation.
   - Goal for vent is 5L minute ventilation
   -Plan for family: call family then extubate
   -changed foley
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-4**] 04:19 AM
   Vancomycin - [**2113-2-4**] 07:45 AM
   Azithromycin - [**2113-2-4**] 08:45 AM
   Piperacillin - [**2113-2-5**] 03:56 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-4**] 08:00 AM
   Lorazepam (Ativan) - [**2113-2-4**] 10:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-5**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 69 (63 - 81) bpm
   BP: 152/57(91) {144/47(80) - 188/78(121)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
    CVP: 11 (2 - 13)mmHg
   Total In:
                                                                  1,756 mL
                                                                    224 mL
   PO:
   TF:
                                                                    781 mL
                                                                     46 mL
   IVF:
                                                                    855 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    820 mL
   Urine:
                                                                  1,570 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
                                                                  1,200 mL
   Balance:
                                                                 -1,314 mL
                                                                   -596 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 502 (310 - 510) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 15 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/38/161/25/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   8.2 g/dL
   90 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   111 mEq/L
   143 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2113-2-2**]  04:28 PM
                             [**2113-2-2**]  09:12 PM
                             [**2113-2-3**]  04:31 AM
                             [**2113-2-3**]  05:11 PM
                             [**2113-2-3**]  06:21 PM
                             [**2113-2-4**]  03:48 AM
                             [**2113-2-4**]  04:20 AM
                             [**2113-2-4**]  08:25 PM
                             [**2113-2-5**]  03:27 AM
                             [**2113-2-5**]  03:52 AM
   WBC
   5.4
   5.2
   6.1
   Hct
   25.6
   25.8
   25.4
   Plt
   144
   151
   135
   Cr
   1.9
   1.9
   1.7
   TCO2
   26
   24
   23
   25
   24
   24
   25
   Glucose
   86
   116
   90
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.8 mmol/L, LDH:111
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
    # Hypercarbia:  This patient was intubated for hypercarbic respiratory
   failure and continues to become hypercarbic any time he is not
   maintained on assigned rate ventilation.  There does not appear to be
   an intrinsic pulmonary process contributing to this issue and it seems
   more consistent with decreased central respiratory drive.    It seems
   unlikely sever impairment of drive is due simply to low doses of
   sedatives but no indication of other, more pernicious etiologies at
   this time.
   -Sedation off, will attempt spontaneous breathing trial when this is
   off several hours
   -Attempt to  set lower minute ventilations on AC in order to not blunt
   respiratory drive.
   # Hypoxia: Patient
s hypoxia presumably due to collapsed left lower
   lobe most likley due to staph aureus pneumonia and likely a  mucus
   plug.  This continues to appear to be improved.     Currently, he is
   well oxygenated with ventilation.  .
   -Continue vancomycin and  pipercillin/tazobactam pending final culture
   results
   -Intend for 7 day course of therapy for pneumonia, will hope to d/c
   pip-tazobactam after final respiratory cultures negative
    # Acute Kidney Injury on Chronic Kidney Disease: FeNa of 0.4 most c/w
   prerenal [**Last Name (un) **] though possible element of ATN as well (given muddy brown
   casts) Cr stable since yesterday.
   -Given decreased edema and increased UOP yesterday will cautiously give
   1000 ml NS and follow UOP and edema.
   -Renally dose medications
    -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.
   -Change foley catheter
   #  Abdominal Pain: Patient continues to deny abdominal pain and exam
   benign.  Continue to monitor.
   # Delirium: Patient w/purposeful movements and nods/shakes head
   appropriately.  Patient is not combative or a danger to himself or to
   lines.   No signs of current delirium.
   - treat underlying potential cause of delirium (infection) and
   respiratory derangements
   # History of Afib/HTN: Continue metoprolol with good holding parameters
   in order to avoid risks of Afib with RVR.
   # FEN: Tube feeds, 1000 ml NS over 10 hours
   # PPx: heparin SC and continue PPI
   # Access: R IJ, A-line, PIV
   # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-05 10:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2113-2-4**] 07:32 PM--no events, no PTX--1 liter
   exudative fluid removed
   -Sedation minimized overnight
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-4**] 04:19 AM
   Piperacillin - [**2113-2-5**] 03:56 AM
   Azithromycin - [**2113-2-5**] 07:45 AM
   Vancomycin - [**2113-2-5**] 08:44 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-2-4**] 10:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-5**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 64 (56 - 81) bpm
   BP: 159/61(95) {144/47(80) - 186/72(110)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
   CVP: 3 (2 - 13)mmHg
   Total In:
                                                                  1,756 mL
                                                                    698 mL
   PO:
   TF:
                                                                    781 mL
                                                                     46 mL
   IVF:
                                                                    855 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    900 mL
   Urine:
                                                                  1,570 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
                                                                  1,200 mL
   Balance:
                                                                 -1,314 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 168 (168 - 510) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.41/38/161/25/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   135 K/uL
   90 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   111 mEq/L
   143 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2113-2-2**]  04:28 PM
                             [**2113-2-2**]  09:12 PM
                             [**2113-2-3**]  04:31 AM
                             [**2113-2-3**]  05:11 PM
                             [**2113-2-3**]  06:21 PM
                             [**2113-2-4**]  03:48 AM
                             [**2113-2-4**]  04:20 AM
                             [**2113-2-4**]  08:25 PM
                             [**2113-2-5**]  03:27 AM
                             [**2113-2-5**]  03:52 AM
   WBC
   5.4
   5.2
   6.1
   Hct
   25.6
   25.8
   25.4
   Plt
   144
   151
   135
   Cr
   1.9
   1.9
   1.7
   TCO2
   26
   24
   23
   25
   24
   24
   25
   Glucose
   86
   116
   90
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.8 mmol/L, LDH:111
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-Improved left sided effusion, Suggestion of persistent
   right sided effusion.
   Assessment and Plan
   82 yo male with respiratory failure in the setting of weakness and
   aspiration and pleural effusions and atelectasis in the setting of MRSA
   pneumonia.  He now has intubation with clearance of secretions, pleural
   effusion that has been sampled and found to be simple exudative
   effusion, Rx of PNA with appropriate ABX and substantial improvement in
   mental status
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, ASPIRATION
   -Vanco/Zosyn/Azithromycin
   -Aspiration precautions
   -Continue with ABX for full course with Azithromycin completed today
   Respiratory Failure
Patient with optimized mental status, optimized
   secretion management, optimized volume status and is s/p pleural
   effusions.  He has substantial increase in alterness this morning.
   -Will move to extubaiton this morning
   -Will need supervised feeds if return to po attempted
   -OOB to chair today
   -Incentive spirometry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family updated with plan and daughter in
   attendance and extubation acknowledged as plan with goal for
   re-intubation if required.
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes

2113-02-06 07:39:00 Physician Resident Progress Note
Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2113-2-5**] 10:27 AM
 NON-INVASIVE VENTILATION - START [**2113-2-5**] 01:45 PM
 NON-INVASIVE VENTILATION - STOP [**2113-2-6**] 12:03 AM
 INVASIVE VENTILATION - START [**2113-2-6**] 12:09 AM
   -Extubated in a.m. but grew gradually more hypercapnic over the course
   of the day (with some improvement with BiPAP), appeared to be secondary
   to chest wall MSK weakness, also had increased purulent sputum (sent
   for cx), ultimately needed reintubation around midnight.  Spoke to his
   daughter, [**Name (NI) 2856**], prior to reintubation, and she was OK with the
   intervention but actually basically said that she was not as in favor
   of aggressive interventions, i.e. intubation, as her sisters.
   -[**Name2 (NI) 1383**] d/c'd but nurse unable to pass new one [**1-30**] tight prostate as of
   2pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-4**] 04:19 AM
   Azithromycin - [**2113-2-5**] 07:45 AM
   Vancomycin - [**2113-2-5**] 08:44 AM
   Piperacillin - [**2113-2-6**] 04:26 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-5**] 10:00 PM
   Metoprolol - [**2113-2-6**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 61 (56 - 96) bpm
   BP: 133/53(76) {98/47(66) - 188/77(118)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
    CVP: 3 (2 - 4)mmHg
   Total In:
                                                                  1,014 mL
                                                                    206 mL
   PO:
   TF:
                                                                     46 mL
   IVF:
                                                                    968 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    480 mL
   Urine:
                                                                  1,660 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -646 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 892 (168 - 892) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.47/31/138/22/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 276
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   8.6 g/dL
   87 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.5 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   26.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2113-2-5**]  12:03 PM
                             [**2113-2-5**]  01:29 PM
                             [**2113-2-5**]  03:01 PM
                             [**2113-2-5**]  04:20 PM
                             [**2113-2-5**]  07:30 PM
                             [**2113-2-5**]  11:33 PM
                             [**2113-2-6**]  12:50 AM
                             [**2113-2-6**]  04:06 AM
                             [**2113-2-6**]  04:18 AM
                             [**2113-2-6**]  05:48 AM
   WBC
   14.0
   Hct
   26.6
   Plt
   174
   Cr
   1.9
   TCO2
   25
   27
   27
   26
   25
   25
   24
   24
   23
   Glucose
   87
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.5 mmol/L, LDH:111
   IU/L, Ca++:10.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercarbia:  This patient was intubated for hypercarbic respiratory
   failure and continues to become hypercarbic any time he is not
   maintained on assigned rate ventilation.  There does not appear to be
   an intrinsic pulmonary process contributing to this issue and it seems
   more consistent with decreased central respiratory drive.    It seems
   unlikely sever impairment of drive is due simply to low doses of
   sedatives but no indication of other, more pernicious etiologies at
   this time.
   -Sedation off, will attempt spontaneous breathing trial when this is
   off several hours
   -Attempt to  set lower minute ventilations on AC in order to not blunt
   respiratory drive.
   # Hypoxia: Patient
s hypoxia presumably due to collapsed left lower
   lobe most likley due to staph aureus pneumonia and likely a  mucus
   plug.  This continues to appear to be improved.     Currently, he is
   well oxygenated with ventilation.  .
   -Continue vancomycin and  pipercillin/tazobactam pending final culture
   results
   -Intend for 7 day course of therapy for pneumonia, will hope to d/c
   pip-tazobactam after final respiratory cultures negative
    # Acute Kidney Injury on Chronic Kidney Disease: FeNa of 0.4 most c/w
   prerenal [**Last Name (un) **] though possible element of ATN as well (given muddy brown
   casts) Cr stable since yesterday.
   -Given decreased edema and increased UOP yesterday will cautiously give
   1000 ml NS and follow UOP and edema.
   -Renally dose medications
    -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.
   -Change foley catheter
   #  Abdominal Pain: Patient continues to deny abdominal pain and exam
   benign.  Continue to monitor.
   # Delirium: Patient w/purposeful movements and nods/shakes head
   appropriately.  Patient is not combative or a danger to himself or to
   lines.   No signs of current delirium.
   - treat underlying potential cause of delirium (infection) and
   respiratory derangements
   # History of Afib/HTN: Continue metoprolol with good holding parameters
   in order to avoid risks of Afib with RVR.
   # FEN: Tube feeds, 1000 ml NS over 10 hours
   # PPx: heparin SC and continue PPI
   # Access: R IJ, A-line, PIV
   # Communication: W/ [**Name (NI) 2856**], HCP.
   # CODE: FULL
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT:  heparin sc, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-06 08:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday am; reintubated earlier this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-4**] 04:19 AM
   Azithromycin - [**2113-2-5**] 07:45 AM
   Vancomycin - [**2113-2-5**] 08:44 AM
   Piperacillin - [**2113-2-6**] 08:18 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-5**] 10:00 PM
   Metoprolol - [**2113-2-6**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-6**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 61 (56 - 96) bpm
   BP: 147/54(80) {98/47(66) - 188/77(118)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
   CVP: 3 (2 - 4)mmHg
   Total In:
                                                                  1,014 mL
                                                                    321 mL
   PO:
   TF:
                                                                     46 mL
   IVF:
                                                                    968 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    580 mL
   Urine:
                                                                  1,660 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -646 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 892 (168 - 892) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.45/33/129/22/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   174 K/uL
   87 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.5 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   26.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2113-2-5**]  01:29 PM
                             [**2113-2-5**]  03:01 PM
                             [**2113-2-5**]  04:20 PM
                             [**2113-2-5**]  07:30 PM
                             [**2113-2-5**]  11:33 PM
                             [**2113-2-6**]  12:50 AM
                             [**2113-2-6**]  04:06 AM
                             [**2113-2-6**]  04:18 AM
                             [**2113-2-6**]  05:48 AM
                             [**2113-2-6**]  08:12 AM
   WBC
   14.0
   Hct
   26.6
   Plt
   174
   Cr
   1.9
   TCO2
   27
   27
   26
   25
   25
   24
   24
   23
   24
   Glucose
   87
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:57.0 %,
   Lymph:32.8 %, Mono:5.3 %, Eos:4.5 %, Lactic Acid:0.5 mmol/L, LDH:111
   IU/L, Ca++:10.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR- bilateral lower airspace disease, layering effusions,
   vascular prominence.
   Microbiology: No new culture data.
   Assessment and Plan
   82 yo male with respiratory failure in the setting of weakness and
   aspiration and pleural effusions and atelectasis in the setting of MRSA
   pneumonia.  He was intubation initially with clearance of secretions,
   pleural effusion that has been sampled and found to be simple exudative
   effusion, Rx of PNA with appropriate ABX and substantial improvement in
   mental status. Extubated yesterday with progressive hypercarbic failure
   and reintubated.
   1) Aspiration PNA with hypercarbic respiratory failure
   -Vanco/Zosyn
   -Aspiration precautions
   -Decrease minute ventilation to correct respiratory alkalosis
   -Decrease sedation
   2) Volume overload
   -TTE
   -BNP
   -Diuresis based on above.
   3) Leukocytosis with purulent secretions
   - Sputum culture
   - Pan culture If spikes
   4) ARF
   - Follow while optimizing volume status
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 82M multifactorial respiratory failure.
   Exam notable for Tm 97.9 BP 110/70 HR 90 RR18-24 with sat 98 on VAC.
   Ill appearing man, coarse BS B. RRR s1s2. Soft, NT + BS, large wound
   healing by secondary intention.
   Agree with plan to manage respiratory failure with transition from VAC
   to PSV while allowing pCO2 to drift up. Will check CVP and BNP as well
   as echo given concern for volume overload prior to diuresis. Will
   recheck sputum and continue with vanco and zosyn for component of
   pneumonia. Will meet with family to discuss long terms goals of care.
   Need to transition off drip sedation and place PICC. Resume TFs.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 33**], MD
   on:[**2113-2-6**] 16:40 ------

2113-02-07 07:55:00 Physician Resident Progress Note
Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2113-2-6**] 09:51 AM
 SPUTUM CULTURE - At [**2113-2-7**] 04:20 AM
   -Urology re-inserted foley with coude and hematuria
   -some hypotension and poor urine output  in PM for which he received
   fluids with some response
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-6**] 08:45 AM
   Azithromycin - [**2113-2-6**] 08:00 PM
   Piperacillin - [**2113-2-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2113-2-6**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-7**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 58 (57 - 73) bpm
   BP: 124/43(65) {101/39(57) - 150/59(91)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
    CVP: 7 (1 - 10)mmHg
   Total In:
                                                                  1,639 mL
                                                                    633 mL
   PO:
   TF:
   IVF:
                                                                  1,639 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                    911 mL
                                                                    170 mL
   Urine:
                                                                    911 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    728 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.38/41/121/27/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Ostomy in place
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   7.4 g/dL
   53 mg/dL
   2.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   28 mg/dL
   111 mEq/L
   144 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2113-2-5**]  07:30 PM
                             [**2113-2-5**]  11:33 PM
                             [**2113-2-6**]  12:50 AM
                             [**2113-2-6**]  04:06 AM
                             [**2113-2-6**]  04:18 AM
                             [**2113-2-6**]  05:48 AM
                             [**2113-2-6**]  08:12 AM
                             [**2113-2-6**]  04:46 PM
                             [**2113-2-7**]  03:31 AM
                             [**2113-2-7**]  06:28 AM
   WBC
   14.0
   10.3
   Hct
   26.6
   23.7
   Plt
   174
   184
   Cr
   1.9
   2.2
   TCO2
   25
   25
   24
   24
   23
   24
   26
   25
   Glucose
   87
   53
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:71.3 %,
   Lymph:20.1 %, Mono:5.0 %, Eos:3.0 %, Lactic Acid:0.5 mmol/L, LDH:111
   IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Initially intubated for hypercarbic
   respiratory failure, likely secondary to chest muscle weakness,
   extubated on [**2113-2-5**], but required re-intubation later that day for
   worsening hypercapnic respiratory failure.   [**Month (only) 60**] be exacerbated by
   mental status changes from likely continued aspiration events and
   pulmonary edema. Decreased central respiratory drive does not appear to
   be contributing as patient was tachypneic prior to intubation.   Will
   attempt to treat possible reversible causes of respiratory failure,
   including pneumonia, volume overload if indicated.  [**Month (only) 60**] ultimately
   require tracheostomy.
   - attempt to weane sedation and initiate pressure support
   - continue gentle diuresis as tolerated by BP
   - continue vanc/zosyn
   - discuss extubation contingencies with family and possibility of
   tracheostomy placement
   # Pneumonia: Patient has collapsed left lower lobe most likley due to
   staph aureus pneumonia and likely a mucus plug.  After extubation on
   [**2113-2-5**], had increased production of sputum.   Also with leukocytosis on
   [**2113-2-6**].
   -Continue vancomycin and  pipercillin/tazobactam pending final culture
   results
   -Intend for [**7-7**] day course of therapy for pneumonia, will hope to d/c
   pip-tazobactam after final respiratory cultures negative
   # Anemia:  Hct 24 from baseline of 25-27.  Will check p.m. Hct and
   guaiac stools.
   # History of Afib/HTN: Continue metoprolol with good holding parameters
   in order to avoid risks of Afib with RVR.
   # Chronic Renal Insufficency:  Creatinine appears to be at baseline.
   Had mild acute on chronic renal failure at presentation that reolved.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology.
   - continue to monitor
   # FEN: Tube feeds, will place NGT
   # PPx: heparin SC and continue PPI
   # Access: R IJ, A-line, PIV
s.  Will place PICC and d/c central line.
   # Communication: W/ [**Name (NI) 2856**], HCP.
   # CODE: FULL
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2113-02-08 07:24:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure, altered mental status
   24 Hour Events:
   - NIFS -14 in afternoon
   -PICC ordered but not yet placed
   -Vanco d/c'd as level 35 in am. Reordered level for Wed am
   -pm Hct stable at 25
   -unable to place NGT. Likely will have to do in IR.
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-6**] 08:45 AM
   Azithromycin - [**2113-2-6**] 08:00 PM
   Piperacillin - [**2113-2-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-7**] 08:49 AM
   Metoprolol - [**2113-2-7**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-8**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 56 (56 - 84) bpm
   BP: 120/42(65) {101/37(56) - 177/74(110)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
    CVP: 7 (3 - 15)mmHg
   Total In:
                                                                    912 mL
                                                                    190 mL
   PO:
   TF:
   IVF:
                                                                    912 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    440 mL
   Urine:
                                                                    875 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 303 (303 - 456) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.26/50/120/22/-4
   NIF: -14 cmH2O
   Ve: 9.5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, colostomy
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Increased
   Labs / Radiology
   219 K/uL
   7.4 g/dL
   34 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   28 mg/dL
   110 mEq/L
   144 mEq/L
   24.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2113-2-6**]  04:18 AM
                             [**2113-2-6**]  05:48 AM
                             [**2113-2-6**]  08:12 AM
                             [**2113-2-6**]  04:46 PM
                             [**2113-2-7**]  03:31 AM
                             [**2113-2-7**]  06:28 AM
                             [**2113-2-7**]  05:17 PM
                             [**2113-2-8**]  04:15 AM
                             [**2113-2-8**]  04:44 AM
                             [**2113-2-8**]  05:42 AM
   WBC
   10.3
   6.7
   Hct
   23.7
   25.1
   24.0
   Plt
   184
   219
   Cr
   2.2
   2.2
   TCO2
   24
   23
   24
   26
   25
   23
   23
   Glucose
   53
   34
   Other labs: PT / PTT / INR:13.1/31.9/1.1, Differential-Neuts:71.3 %,
   Lymph:20.1 %, Mono:5.0 %, Eos:3.0 %, Lactic Acid:0.5 mmol/L, LDH:111
   IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Initially intubated for hypercarbic
   respiratory failure, likely secondary to chest muscle weakness,
   extubated on [**2113-2-5**], but required re-intubation later that day for
   worsening hypercapnic respiratory failure.   [**Month (only) 60**] be exacerbated by
   mental status changes from likely continued aspiration events and
   pulmonary edema. Decreased central respiratory drive does not appear to
   be contributing as patient was tachypneic prior to intubation.   Will
   attempt to treat possible reversible causes of respiratory failure,
   including pneumonia, volume overload if indicated.  [**Month (only) 60**] ultimately
   require tracheostomy.
   - attempt to weane sedation and initiate pressure support
   - continue gentle diuresis as tolerated by BP
   - continue vanc/zosyn
   - discuss extubation contingencies with family and possibility of
   tracheostomy placement
    # Pneumonia: Patient has collapsed left lower lobe most likley due to
   staph aureus pneumonia and likely a mucus plug.  After extubation on
   [**2113-2-5**], had increased production of sputum.   Also with leukocytosis on
   [**2113-2-6**].
   -Continue vancomycin and  pipercillin/tazobactam pending final culture
   results
   -Intend for [**7-7**] day course of therapy for pneumonia, will hope to d/c
   pip-tazobactam after final respiratory cultures negative
    # Anemia:  Hct 24 from baseline of 25-27.  Will check p.m. Hct and
   guaiac stools.
    # History of Afib/HTN: Continue metoprolol with good holding
   parameters in order to avoid risks of Afib with RVR.
    # Chronic Renal Insufficency:  Creatinine appears to be at baseline.
   Had mild acute on chronic renal failure at presentation that reolved.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology.
   - continue to monitor
    # FEN: Tube feeds, will place NGT
    # PPx: heparin SC and continue PPI
    # Access: R IJ, A-line, PIV
s.  Will place PICC and d/c central line.
    # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
    # DISPO: ICU
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, ASPIRATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-09 08:02:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, MS changes
   24 Hour Events:
   -started on prn fentanyl boluses and prn propofol to relieve agitation
   -[**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] (neurology) plans to see patient on friday for
   neuromuscular studies
   -NGT placed
   -started on amlodipine for htn
   -PICC nurse stopped by to place PICC but family refused line
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-6**] 08:45 AM
   Azithromycin - [**2113-2-6**] 08:00 PM
   Piperacillin - [**2113-2-8**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-9**] 05:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-9**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 58 (53 - 79) bpm
   BP: 156/56(88) {125/42(68) - 174/73(103)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
    CVP: 5 (-3 - 8)mmHg
   Total In:
                                                                    668 mL
                                                                    245 mL
   PO:
   TF:
                                                                    218 mL
   IVF:
                                                                    450 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    205 mL
   Urine:
                                                                  1,260 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -792 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (400 - 550) mL
   Vt (Spontaneous): 329 (291 - 329) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.28/45/101/21/-5
   NIF: -27 cmH2O
   Ve: 8.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, colostomy
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   7.6 g/dL
   54 mg/dL
   2.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   27 mg/dL
   112 mEq/L
   145 mEq/L
   24.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2113-2-6**]  04:46 PM
                             [**2113-2-7**]  03:31 AM
                             [**2113-2-7**]  06:28 AM
                             [**2113-2-7**]  05:17 PM
                             [**2113-2-8**]  04:15 AM
                             [**2113-2-8**]  04:44 AM
                             [**2113-2-8**]  05:42 AM
                             [**2113-2-8**]  11:11 AM
                             [**2113-2-8**]  05:21 PM
                             [**2113-2-9**]  04:32 AM
   WBC
   10.3
   6.7
   6.7
   Hct
   23.7
   25.1
   24.0
   24.0
   Plt
   184
   219
   246
   Cr
   2.2
   2.2
   2.2
   TCO2
   26
   25
   23
   23
   21
   22
   Glucose
   53
   34
   54
   Other labs: PT / PTT / INR:13.3/27.0/1.1, Differential-Neuts:63.9 %,
   Lymph:28.3 %, Mono:4.1 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, LDH:111
   IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he needed
   re-intubation.  Multiple factors contributing factors including extreme
   sensitivity to sedating meds, muscle weakness, and possible increased
   dead space due to pneumonia and mucous plugging.  Given many days of
   therapy for pneumonia and optimization of fluid status we are reaching
   the limits of improving reversible issues.  Plan to move toward
   extubation again today.
   -SBT and check ABG
   -Extubate if not hypercapnic again and will re-intubate if fails again
    # Pneumonia: Patient has collapsed left lower lobe most likley due to
   staph aureus pneumonia and likely a mucus plug.  After extubation on
   [**2113-2-5**], had increased production of sputum.   Sputum grew S. aureus.
   -Intend for 14 days of vancomycin therapy (currently on day 9)
    # Anemia:  Hct 24 from baseline of 25-27.  Will plan to transfuse for
   less than or eequal than 23.
   -guiac ostomy output
    # History of Afib/HTN: Continue metoprolol with good holding
   parameters in order to avoid risks of Afib with RVR.
    # [**Last Name (un) **] on CKD: Patient is worsened from baseline Cr of 1.4-1.5 and has
   been since presentation.  Initially appeared consistent with pre-renal
   failure but would have expected more improvement by now.  Somewhat
   limited in ability to hydrate due to volume status issues and desire to
   optimize pulmonary status.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology.
   - continue to monitor
    # FEN: NG placed today, will initiate tube feeds
   # PPx: heparin SC and continue PPI
    # Access: R IJ, A-line, PICC refused by family
    # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
    # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:  elevate HOB, chlorhexidine, daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2113-02-10 07:58:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Had SBT with mild hypercarbia but stable so attempted extubation
   -Proceeded to have worsening hypercarbia and more somnolence so was
   re-intubated after 2-3 hours
   -Continued to received propofol for comfort
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-2-8**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-9**] 05:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-9**] 08:00 AM
   Metoprolol - [**2113-2-9**] 08:00 AM
   Propofol - [**2113-2-9**] 06:36 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**1-30**] sedation
   Flowsheet Data as of  [**2113-2-10**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 49 (45 - 100) bpm
   BP: 146/51(80) {138/48(75) - 195/76(124)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
    CVP: 5 (1 - 10)mmHg
   Total In:
                                                                    470 mL
                                                                    252 mL
   PO:
   TF:
                                                                     70 mL
   IVF:
                                                                    470 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    160 mL
   Urine:
                                                                  1,200 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -930 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 378 (378 - 380) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 200
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.43/34/166/21/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 415
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases L >R, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   264 K/uL
   7.5 g/dL
   64 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.6 mEq/L
   24 mg/dL
   111 mEq/L
   144 mEq/L
   22.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2113-2-9**]  11:38 AM
                             [**2113-2-9**]  01:18 PM
                             [**2113-2-9**]  02:09 PM
                             [**2113-2-9**]  03:22 PM
                             [**2113-2-9**]  04:05 PM
                             [**2113-2-9**]  05:26 PM
                             [**2113-2-9**]  06:31 PM
                             [**2113-2-9**]  09:15 PM
                             [**2113-2-10**]  04:58 AM
                             [**2113-2-10**]  05:12 AM
   WBC
   6.0
   Hct
   22.4
   Plt
   264
   Cr
   2.0
   TCO2
   24
   24
   23
   24
   23
   23
   24
   24
   23
   Glucose
   64
   Other labs: PT / PTT / INR:12.9/27.4/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:63.9 %, Lymph:28.3 %, Mono:4.1 %,
   Eos:3.4 %, Lactic Acid:0.5 mmol/L, LDH:112 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, ASPIRATION
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he needed
   re-intubation x2.  Multiple factors contributing factors including
   extreme sensitivity to sedating meds, muscle weakness, and possible
   increased dead space due to pneumonia and mucous plugging.  Given many
   days of therapy for pneumonia and optimization of fluid status we
   suspect we have reached the limits of improving reversible issues.
   -Plan for neuromuscular eval today then to discuss further goals of
   care with family re: desire for trach or not
    # Pneumonia: Patient has collapsed left lower lobe most likley due to
   staph aureus pneumonia and likely a mucus plug.  After extubation on
   [**2113-2-5**], had increased production of sputum.   Sputum grew S. aureus.
   Vanco originally started [**2-1**] will be stopped today and expect it to
   self taper given current renal fxn.
    # Anemia:  Hct 22.4 from baseline of 25-27.  Will order 1 u PRBCs
   today
    # History of Afib/HTN: Continue metoprolol with good holding
   parameters in order to avoid risks of Afib with RVR.
   -Cont norvasc (started [**2-8**])
    # [**Last Name (un) **] on CKD: Patient is worsened from baseline Cr of 1.4-1.5 and has
   been since presentation.  Initially appeared consistent with pre-renal
   failure but would have expected more improvement by now.  Somewhat
   limited in ability to hydrate due to volume status issues and desire to
   optimize pulmonary status.  Cr today 2.2 from 2.0
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology.
   - continue to monitor
    # FEN: NG placed, cont tube feeds
   # PPx: heparin SC and continue PPI
    # Access: R IJ, A-line
    # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
    # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-10**] 12:56 AM 10 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-11 12:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  LLL dense infiltrate on CT with RML/LLL
   collapse.  Bronch showed extrinsic compression of LLL/RML bronchi with
   bronchomalacia and thick secretions. Radiology believes airway
   narrowing more likely malacia and collapse than mass/LAD.  On vanc, s/p
   zosyn x 8 days.  Progressive hypercarbic respiratory failure, so
   intubated ([**2-1**]).  Thick secretions. Did well over weekend and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  TTE negative and BNP 5000, so not
   actively diuresing.  ARF, creatinine stabilized. Very traumatic foley
   placement ([**2-6**]) with hematuria s/p cystoscopy.  Extubated ([**2-9**]) and
   reintubated later that day - will proceed with full neuromuscular eval
   (EMG [**2-10**] shows chronic polyneuropathy) and then continue discussions
   regarding trach/peg.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-2-9**] 05:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-11**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-11**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 56 (44 - 57) bpm
   BP: 161/58(91) {128/49(73) - 190/66(107)} mmHg
   RR: 15 (14 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
   CVP: 4 (3 - 11)mmHg
   Total In:
                                                                  1,334 mL
                                                                    663 mL
   PO:
   TF:
                                                                    469 mL
                                                                    480 mL
   IVF:
                                                                    445 mL
                                                                    183 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                    700 mL
                                                                  1,090 mL
   Urine:
                                                                    700 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    634 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: ///23/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   313 K/uL
   91 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   24 mg/dL
   113 mEq/L
   144 mEq/L
   24.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2113-2-9**]  02:09 PM
                             [**2113-2-9**]  03:22 PM
                             [**2113-2-9**]  04:05 PM
                             [**2113-2-9**]  05:26 PM
                             [**2113-2-9**]  06:31 PM
                             [**2113-2-9**]  09:15 PM
                             [**2113-2-10**]  04:58 AM
                             [**2113-2-10**]  05:12 AM
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
   WBC
   6.0
   5.8
   Hct
   22.4
   24.7
   Plt
   264
   313
   Cr
   2.0
   1.8
   TCO2
   23
   24
   23
   23
   24
   24
   23
   22
   Glucose
   64
   91
   Other labs: PT / PTT / INR:12.9/30.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:63.9 %, Lymph:28.3 %, Mono:4.1 %,
   Eos:3.4 %, Lactic Acid:0.8 mmol/L, LDH:112 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he needed
   re-intubation x2.  Multiple factors contributing factors including
   extreme sensitivity to sedating meds, muscle weakness, and possible
   increased dead space due to pneumonia and mucous plugging.  Given many
   days of therapy for pneumonia and optimization of fluid status we
   suspect we have reached the limits of improving reversible issues.
   -Plan for neuromuscular eval today then to discuss further goals of
   care with family re: desire for trach or not
    # Pneumonia: Patient has collapsed left lower lobe most likley due to
   staph aureus pneumonia and likely a mucus plug.  After extubation on
   [**2113-2-5**], had increased production of sputum.   Sputum grew S. aureus.
   Vanco originally started [**2-1**] will be stopped today and expect it to
   self taper given current renal fxn.
    # Anemia:  Hct 22.4 from baseline of 25-27.  Will order 1 u PRBCs
   today
    # History of Afib/HTN: Continue metoprolol with good holding
   parameters in order to avoid risks of Afib with RVR.
   -Cont norvasc (started [**2-8**])
    # [**Last Name (un) **] on CKD: Patient is worsened from baseline Cr of 1.4-1.5 and has
   been since presentation.  Initially appeared consistent with pre-renal
   failure but would have expected more improvement by now.  Somewhat
   limited in ability to hydrate due to volume status issues and desire to
   optimize pulmonary status.  Cr today 2.2 from 2.0
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology.
   - continue to monitor
    # FEN: NG placed, cont tube feeds
   # PPx: heparin SC and continue PPI
    # Access: R IJ, A-line
    # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
    # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-11**] 11:03 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2113-02-12 07:53:00 Physician Resident Progress Note
Chief Complaint: Hypoxic, Hypercarbic respiratory failure
   24 Hour Events:
   -did PS for some time, spent time with daughters.
   -got one dose of vanc with plan to recheck level in a.m.
   -Pt awake at rounds, indicated multiple times he wanted tube out, when
   told that we were concerned he wouldn
t be able to breathe well enough
   w/o this he wrote
dead
 on clipboard, nodded affirmative when asked if
   this meant he wanted the tube out despite risk of death, shook head
   when trach mentioned.
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-11**] 03:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-11**] 03:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-12**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 70 (49 - 87) bpm
   BP: 178/65(105) {128/49(73) - 208/72(116)} mmHg
   RR: 15 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
    CVP: 6 (4 - 12)mmHg
   Total In:
                                                                  1,521 mL
                                                                    546 mL
   PO:
   TF:
                                                                  1,024 mL
                                                                    468 mL
   IVF:
                                                                    467 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    320 mL
   Urine:
                                                                  1,115 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -444 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 580 (410 - 580) mL
   PS : 8 cmH2O
   RR (Set): 15
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, ostomy in place
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   8.2 g/dL
   128 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   113 mEq/L
   145 mEq/L
   25.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2113-2-9**]  03:22 PM
                             [**2113-2-9**]  04:05 PM
                             [**2113-2-9**]  05:26 PM
                             [**2113-2-9**]  06:31 PM
                             [**2113-2-9**]  09:15 PM
                             [**2113-2-10**]  04:58 AM
                             [**2113-2-10**]  05:12 AM
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
   WBC
   6.0
   5.8
   5.5
   Hct
   22.4
   24.7
   25.1
   Plt
   [**Telephone/Fax (3) 8081**]
   Cr
   2.0
   1.8
   1.8
   TCO2
   24
   23
   23
   24
   24
   23
   22
   Glucose
   64
   91
   128
   Other labs: PT / PTT / INR:13.3/29.6/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:62.5 %, Lymph:29.0 %, Mono:4.4 %,
   Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he needed
   re-intubation x2.  Possible contribution of sedating meds intially but
   has failed when not under influence of these.  Most likely due to
   general neuromuscular weakness (supported by EMG) due to chronic
   illness and/ or malnutrition.
   -only possible route to recovery is prolonged pulmonary rehab and
   placement with trach, patient seems to be indicating he does not want
   but difficult to assess given only able to write short sentences
   -Family meeting to discuss progress and alternatives
   -Trach vs presumably terminal extubation
    # Pneumonia: Patient has collapsed left lower lobe most likley due to
   staph aureus pneumonia and likely a mucus plug.  After extubation on
   [**2113-2-5**], had increased production of sputum.   Sputum grew S. aureus.
   Vanco originally started [**2-1**] and will be continued through [**2113-2-15**] (14
   day course given degree of illness).  Currently self tapering.
   -recheck level in AM
   -dose if <= 20
     -# Anemia:  Hct 25.1 and near baseline of 25-27.  Will follow.
    # History of Afib/HTN: Continue metoprolol with good holding
   parameters in order to avoid risks of Afib with RVR.
   -Cont norvasc (started [**2-8**])
    # [**Last Name (un) **] on CKD: Patient is worsened from baseline Cr of 1.4-1.5 and has
   been since presentation.  Initially appeared consistent with pre-renal
   failure and after some slow improvement has started to improve again
   consisten with pre-renal failure.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor
    # FEN: NG placed, cont tube feeds
   # PPx: heparin SC and continue PPI
    # Access: R IJ, A-line
    # Communication: W/ [**Name (NI) 2856**], HCP.
    # CODE: FULL
    # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-12**] 05:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-12 11:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-11**] 03:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-11**] 03:02 PM
   Pantoprazole (Protonix) - [**2113-2-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-12**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 72 (53 - 87) bpm
   BP: 158/55(93) {138/45(77) - 208/72(116)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
   CVP: 6 (4 - 12)mmHg
   Total In:
                                                                  1,521 mL
                                                                    807 mL
   PO:
   TF:
                                                                  1,024 mL
                                                                    683 mL
   IVF:
                                                                    467 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    605 mL
   Urine:
                                                                  1,115 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -444 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 580 (410 - 580) mL
   PS : 8 cmH2O
   RR (Set): 15
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 13 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.40/44/109/26/1
   Ve: 7.8 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   306 K/uL
   128 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   113 mEq/L
   145 mEq/L
   25.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2113-2-9**]  04:05 PM
                             [**2113-2-9**]  05:26 PM
                             [**2113-2-9**]  06:31 PM
                             [**2113-2-9**]  09:15 PM
                             [**2113-2-10**]  04:58 AM
                             [**2113-2-10**]  05:12 AM
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
   WBC
   6.0
   5.8
   5.5
   Hct
   22.4
   24.7
   25.1
   Plt
   [**Telephone/Fax (3) 8081**]
   Cr
   2.0
   1.8
   1.8
   TCO2
   23
   23
   24
   24
   23
   22
   28
   Glucose
   64
   91
   128
   Other labs: PT / PTT / INR:13.3/29.6/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:62.5 %, Lymph:29.0 %, Mono:4.4 %,
   Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   MICRO: Sputum with persistent MRSA
   CXR: Hilar  fullness, bilateral effusions unchanged from previous.
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Ongoing
   discussions regarding trach/peg.
   # Hypercapnic respiratory failure:  Likely due to neuromuscular
   weakness c/b PNA and effusions.  Has failed 2 trials of extubation, so
   now the decision will need to be made by family regarding withdrawal of
   care vs trach/peg.
   - Fentanyl boluses prn
   - PS as tolerated
   - Discuss trach/peg with family today.
   - Continue vanc for MRSA PNA x 14 days.
   # Anemia:  s/p PRBC
   - Hct stable. Will follow
   # [**Last Name (un) **] on CKD: Creatinine slowly coming down.
   -Renally dose medications
   -Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #Code status: Patient expressed his wishes this am to be extubated and
   not trached.  When explained that he may not be able to breath without
   a trach, he wrote the word
dead
 and confirmed that he does not want
   any further prolongation.  We will call the children today and express
   to them the wishes the patient has made clear to us.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-12**] 05:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ADDENDUM
   Case reviewed in detail with family at bedside. We will continue full
   supportive care and pursue T+G this week. For now, will continue PSV
   wean and fentanyl boluses for sedation with daily assessment of NIF and
   RSBI. Will contact Dr. [**Last Name (STitle) 1924**] for advice regarding feasibility of
   feeding tube in the patient.
   Total time spent: 35 minutes
   Patient is critically ill

2113-02-13 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
   -ABG's stable on PS
   -Patient asked team on rounds to remove tube and indicated OK if he
   were dead due to that then told daughter that wanted tube out NOW but
   didn't want to die
   -Therefore plan decided to proceed to surgery placed trach early next
   week (will call surgery early in AM on [**2113-2-13**]).
   -Daughter [**Name (NI) 420**] nursing and strongly wants father to have another
   trial of extubation.
   -On [**5-2**] overnigh
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-11**] 03:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-13**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 88 (61 - 95) bpm
   BP: 171/65(103) {140/45(77) - 191/74(117)} mmHg
   RR: 29 (12 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  2,227 mL
                                                                    504 mL
   PO:
             TF:
                                                                  1,977 mL
                                                                    433 mL
   IVF:
                                                                    250 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    595 mL
   Urine:
                                                                  1,315 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    912 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (420 - 630) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.38/51/115/28/4
   NIF: -23 cmH2O
   Ve: 8.4 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   8.3 g/dL
   110 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   111 mEq/L
   143 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2113-2-9**]  09:15 PM
                             [**2113-2-10**]  04:58 AM
                             [**2113-2-10**]  05:12 AM
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
   WBC
   6.0
   5.8
   5.5
   6.1
   Hct
   22.4
   24.7
   25.1
   25.4
   Plt
   [**Telephone/Fax (3) 8090**]54
   Cr
   2.0
   1.8
   1.8
   1.5
   TCO2
   24
   23
   22
   28
   29
   31
   Glucose
   64
   91
   128
   110
   Other labs: PT / PTT / INR:13.3/29.6/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:62.5 %, Lymph:29.0 %, Mono:4.4 %,
   Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he needed
   re-intubation x2 (Intubated first on [**2-1**]; extubated unsuccessfully on
   [**2-5**] and [**2-9**]).  Possible contribution of sedating meds intially but has
   failed when not under influence of these.  Most likely due to general
   neuromuscular weakness (supported by EMG) due to chronic illness and/
   or malnutrition.
   -will need trach and pulmonary rehab
   -surgery c/s tomorrow but will send fyi page today
   -Family meeting to discuss progress and alternatives
   -Trach vs presumably terminal extubation
   # Pneumonia: Patient has collapsed left lower lobe secondary to staph
   aureus pneumonia and likely mucus plug.  Vanco originally started [**2-1**]
   and will be continued through [**2113-2-14**] (14 day course given degree of
   illness).
   -will self-taper vanc and complete 14 day course tomorrow
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.  A-line BP reads higher
   measurement than manual cuff.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  norvasc (started [**2-8**])
   # [**Last Name (un) **] on CKD: Patient is worsened from baseline Cr of 1.4-1.5 and has
   been since presentation.  Initially appeared consistent with pre-renal
   failure and after some slow improvement has started to improve again
   consisten with pre-renal failure.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Anemia:  Hct 25.1 and near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor
   # FEN: NG placed, cont tube feeds
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Fibersource HN (Full) - [**2113-2-13**] 04:34 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-13 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-11**] 03:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-13**] 05:29 AM
   Pantoprazole (Protonix) - [**2113-2-13**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-13**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 78 (69 - 95) bpm
   BP: 171/64(103) {138/48(78) - 191/74(117)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  2,227 mL
                                                                    721 mL
   PO:
             TF:
                                                                  1,977 mL
                                                                    611 mL
   IVF:
                                                                    250 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    795 mL
   Urine:
                                                                  1,315 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    912 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 597 (420 - 630) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.38/51/115/28/4
   NIF: -23 cmH2O
   Ve: 9.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   354 K/uL
   110 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   111 mEq/L
   143 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2113-2-9**]  09:15 PM
                             [**2113-2-10**]  04:58 AM
                             [**2113-2-10**]  05:12 AM
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
   WBC
   6.0
   5.8
   5.5
   6.1
   Hct
   22.4
   24.7
   25.1
   25.4
   Plt
   [**Telephone/Fax (3) 8090**]54
   Cr
   2.0
   1.8
   1.8
   1.5
   TCO2
   24
   23
   22
   28
   29
   31
   Glucose
   64
   91
   128
   110
   Other labs: PT / PTT / INR:13.3/29.6/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:62.5 %, Lymph:29.0 %, Mono:4.4 %,
   Eos:3.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: No new imaging.
   Microbiology: No new data.
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Patient and
   family have decided that he wants to be trached.
   # Hypercapnic respiratory failure:  Likely due to neuromuscular
   weakness c/b PNA and effusions.  Has failed 2 trials of extubation, so
   now the decision will need to be made by family regarding withdrawal of
   care vs trach/peg.
   - Fentanyl boluses prn
   - PS as tolerated
   - Plan for trach/peg. Will contact Dr [**Name (NI) 1924**] in am [**2-14**]. patient
   well know to him
   - Continue vanc for MRSA PNA day 13/14.
   # Anemia:  s/p PRBC
   - Hct stable. Will follow
   # [**Last Name (un) **] on CKD: Creatinine slowly coming down.
   -Renally dose medications
   -Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   All other issues per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-13**] 04:34 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-02-14 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
   -Pt once again seeming to want terminal extubation but recanting in
   front of daughters
   - [**Name (NI) 5086**] trach tomorrow. Dr. [**Last Name (STitle) 8104**] [**Name (STitle) **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-11**] 03:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-13**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-14**] 06:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 81 (67 - 97) bpm
   BP: 186/71(112) {126/53(84) - 188/112(122)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,719 mL
                                                                    534 mL
   PO:
             TF:
                                                                  1,469 mL
                                                                    459 mL
   IVF:
                                                                    250 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     94 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 535 (406 - 597) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ////
   NIF: -25 cmH2O
   Ve: 8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   348 K/uL
   8.6 g/dL
   110 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   111 mEq/L
   143 mEq/L
   27.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2113-2-10**]  04:58 AM
                             [**2113-2-10**]  05:12 AM
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
   WBC
   6.0
   5.8
   5.5
   6.1
   6.0
   Hct
   22.4
   24.7
   25.1
   25.4
   27.7
   Plt
   [**Telephone/Fax (3) 8090**]54
   348
   Cr
   2.0
   1.8
   1.8
   1.5
   TCO2
   23
   22
   28
   29
   31
   Glucose
   64
   91
   128
   110
   Other labs: PT / PTT / INR:13.3/29.6/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he needed
   re-intubation x2 (Intubated first on [**2-1**]; extubated unsuccessfully on
   [**2-5**] and [**2-9**]).  Possible contribution of sedating meds intially but has
   failed when not under influence of these.  Most likely due to general
   neuromuscular weakness (supported by EMG) due to chronic illness and/
   or malnutrition.
   -will need trach and pulmonary rehab
   -surgery c/s tomorrow but will send fyi page today
   -Family meeting to discuss progress and alternatives
   -Trach vs presumably terminal extubation
   # Pneumonia: Patient has collapsed left lower lobe secondary to staph
   aureus pneumonia and likely mucus plug.  Vanco originally started [**2-1**]
   and will be continued through [**2113-2-14**] (14 day course given degree of
   illness).
   -will self-taper vanc and complete 14 day course tomorrow
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.  A-line BP reads higher
   measurement than manual cuff.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  norvasc (started [**2-8**])
   # [**Last Name (un) **] on CKD: Patient is worsened from baseline Cr of 1.4-1.5 and has
   been since presentation.  Initially appeared consistent with pre-renal
   failure and after some slow improvement has started to improve again
   consisten with pre-renal failure.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Anemia:  Hct 25.1 and near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor
   # FEN: NG placed, cont tube feeds
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Fibersource HN (Full) - [**2113-2-14**] 03:51 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-14 11:40:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-11**] 03:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-14**] 06:36 AM
   Pantoprazole (Protonix) - [**2113-2-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-14**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 72 (66 - 97) bpm
   BP: 154/56(89) {84/52(78) - 188/112(122)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,719 mL
                                                                    985 mL
   PO:
             TF:
                                                                  1,469 mL
                                                                    701 mL
   IVF:
                                                                    250 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    760 mL
   Urine:
                                                                  1,350 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     94 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 438 (406 - 535) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.39/53/124/32/6
   NIF: -25 cmH2O
   Ve: 7.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   348 K/uL
   97 mg/dL
   1.5 mg/dL
   32 mEq/L
   4.7 mEq/L
   27 mg/dL
   109 mEq/L
   144 mEq/L
   27.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2113-2-10**]  05:12 AM
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
   WBC
   5.8
   5.5
   6.1
   6.0
   Hct
   24.7
   25.1
   25.4
   27.7
   Plt
   [**Telephone/Fax (3) 8107**]48
   Cr
   1.8
   1.8
   1.5
   1.5
   TCO2
   23
   22
   28
   29
   31
   33
   Glucose
   91
   128
   110
   97
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - Increased bilateral effusions.
   Microbiology: No new data.
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Patient and
   family have decided that he wants to be trached.
   # Hypercapnic respiratory failure:  Likely due to neuromuscular
   weakness c/b PNA and effusions.  Has failed 2 trials of extubation, so
   now the decision will need to be made by family regarding withdrawal of
   care vs trach/peg.
   - Fentanyl boluses prn
   - PS as tolerated
   - Plan for trach today by IP/thoracics
 will defer PEG at this time.
   - S/p vanc for MRSA PNA x 14 days
   # Anemia:  s/p PRBC
   - Hct stable. Will follow
   # [**Last Name (un) **] on CKD: Creatinine slowly coming down.
   -Renally dose medications
   -Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   All other issues per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-14**] 03:51 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2113-02-15 07:54:00 Physician Resident Progress Note
Chief Complaint: MRSA pneumonia, respiratory failure
   24 Hour Events:
   -Pt seen by IP and plan is to place trach on [**2-15**] at bedside. Daughters
   aware and agreeable.
   -Dobhoff placed by IR.  Brief point of tension with one of daughters
   (?[**Name2 (NI) 673**]) b/c originally Dobhoff was to be placed tomorrow b/c of
   scheduling problems with IR, but changed to today at last minute.
   Explained situation to her and she felt better, no problems.
   [**Name (NI) 53**] unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-14**] 08:00 AM
   Fentanyl - [**2113-2-14**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-15**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-15**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 77 (61 - 90) bpm
   BP: 182/68(110) {84/47(76) - 183/76(117)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,206 mL
                                                                    489 mL
   PO:
             TF:
                                                                    718 mL
   IVF:
                                                                    298 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    350 mL
   Urine:
                                                                  1,555 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -774 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (347 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.39/53/124/32/6
   Ve: 6.1 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, ostomy and large
   scar
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   309 K/uL
   8.0 g/dL
   78 mg/dL
   1.5 mg/dL
   32 mEq/L
   4.5 mEq/L
   26 mg/dL
   106 mEq/L
   142 mEq/L
   25.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2113-2-10**]  07:55 AM
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
   WBC
   5.8
   5.5
   6.1
   6.0
   4.9
   Hct
   24.7
   25.1
   25.4
   27.7
   25.3
   Plt
   [**Telephone/Fax (3) 8107**]48
   309
   Cr
   1.8
   1.8
   1.5
   1.5
   1.5
   TCO2
   22
   28
   29
   31
   33
   Glucose
   91
   128
   110
   97
   78
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he failed extubation
   x2 (Intubated first on [**2-1**]; extubated unsuccessfully on [**2-5**] and [**2-9**]).
   There was a questionable contribution of sedating meds to his initial
   hypventilatory failure but .  Most likely due to general neuromuscular
   weakness chronic illness and/ or malnutrition.
   -will need trach and pulmonary rehab
   # Pneumonia: Patient has collapsed left lower lobe secondary to staph
   aureus pneumonia and likely mucus plug.  He has completed a  14 day
   course of vancomycin for this.
   #Pulmonary edema: Patient with bilateral pulmonary edema on chest
   radiograph and trace lower extremity edema.  We will attempt gentle
   diuresis today after his trach placement.  If poor response to bolus
   furosemide would consider albumin to pull fluid intravascular prior to
   further boluses due to assumed low colloid pressure.
   -Goal I/O is -500-1000ml
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.  A-line BP reads higher
   measurement than manual cuff.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  norvasc (started [**2-8**])
   -Patient currently somewhat agitated due to tube and awareness, after
   ET tube removed will  reevaluate need for further anti-hypertensives
   # [**Last Name (un) **] on CKD: Patient is worsened from baseline Cr of 1.4-1.5 and has
   been since presentation.  Initially appeared consistent with pre-renal
   failure and after some slow improvement has started to improve again
   consisten with pre-renal failure.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Anemia:  Hct 25.3 and near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor
   # FEN: Dobhoff placed, continue tube foods
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-15 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dophoff placed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2113-2-14**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-15**] 06:15 AM
   Pantoprazole (Protonix) - [**2113-2-15**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-15**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 55 (55 - 90) bpm
   BP: 130/41(67) {130/41(67) - 183/76(117)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,206 mL
                                                                    633 mL
   PO:
             TF:
                                                                    718 mL
   IVF:
                                                                    298 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    615 mL
   Urine:
                                                                  1,555 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -774 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (347 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.36/55/130/32/4
   Ve: 8.4 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   309 K/uL
   78 mg/dL
   1.5 mg/dL
   32 mEq/L
   4.5 mEq/L
   26 mg/dL
   106 mEq/L
   142 mEq/L
   25.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2113-2-11**]  03:53 AM
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
   WBC
   5.8
   5.5
   6.1
   6.0
   4.9
   Hct
   24.7
   25.1
   25.4
   27.7
   25.3
   Plt
   [**Telephone/Fax (3) 8107**]48
   309
   Cr
   1.8
   1.8
   1.5
   1.5
   1.5
   TCO2
   28
   29
   31
   33
   32
   Glucose
   91
   128
   110
   97
   78
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Microbiology: No new micro data.
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Patient and
   family have decided that he wants to be trached.
   # Hypercapnic respiratory failure:  Likely due to neuromuscular
   weakness (NIF [**8-24**]) c/b PNA and effusions.  Has failed 2 trials of
   extubation, so now the getting trached.
   - Fentanyl boluses prn
   - PS as tolerated
   - Plan for trach today by IP
   - S/p Dophoff for feeding
 deferred PEG
   - S/p vanc for MRSA PNA x 14 days
   - Diuresis as tolerated (consider albumin/lasix if not responding)
   # Anemia:  s/p PRBC
   - Hct slowly trending down. Will follow
   - Hemoccult ostomy
   # [**Last Name (un) **] on CKD: Creatinine slowly coming down.
   - Renally dose medications
   - Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #Afib/HTN: On home regimen.  Persistently hypertensive, but likely [**1-30**]
   agitation from tube, so will follow
   #FEN: dophoff with TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, start screening for rehab
   Total time spent: 20 minutes

2113-02-16 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
   -Trach canceled due to complex series of events due mostly to
   anesthesia scheduling; family livid and daughter threatening, final
   decision was that it was not safe to do a redo tracheostomy on the
   floor in the evening w/o surgical backup, family accepted plan
   -Trach scheduled for [**2113-2-16**]
   -Got 20 mg IV furosemide
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-15**] 07:56 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-15**] 09:44 PM
   Fentanyl - [**2113-2-16**] 12:00 AM
   Furosemide (Lasix) - [**2113-2-16**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-16**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 90 (55 - 90) bpm
   BP: 179/70(108) {130/41(67) - 187/76(116)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,084 mL
                                                                     76 mL
   PO:
             TF:
                                                                    262 mL
   IVF:
                                                                    662 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    900 mL
   Urine:
                                                                  1,510 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -576 mL
                                                                   -824 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (343 - 493) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.36/55/130/33/4
   Ve: 5.2 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, ostomy
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   296 K/uL
   8.5 g/dL
   71 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.0 mEq/L
   27 mg/dL
   105 mEq/L
   142 mEq/L
   25.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
   WBC
   5.5
   6.1
   6.0
   4.9
   4.8
   Hct
   25.1
   25.4
   27.7
   25.3
   25.8
   Plt
   [**Telephone/Fax (3) 8126**]09
   296
   Cr
   1.8
   1.5
   1.5
   1.5
   1.6
   TCO2
   28
   29
   31
   33
   32
   Glucose
   128
   110
   97
   78
   71
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he failed extubation
   x2 (Intubated first on [**2-1**]; extubated unsuccessfully on [**2-5**] and [**2-9**]).
   There was a questionable contribution of sedating meds to his initial
   hypventilatory failure but most likely due to general neuromuscular
   weakness (polyneuropathy documented), chronic illness and/ or
   malnutrition.
   -will need trach and pulmonary rehab
   # Pneumonia: Patient has collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.
   - continue to follow
   #Pulmonary edema: Patient with bilateral pulmonary edema on chest
   radiograph and trace lower extremity edema.  We will attempt gentle
   diuresis today after his trach placement.  If poor response to bolus
   furosemide would consider albumin to pull fluid intravascular prior to
   further boluses due to assumed low colloid pressure.
   -Goal I/O is -500-1000ml
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.  A-line BP reads higher
   measurement than manual cuff.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  norvasc (started [**2-8**])
   -Patient currently somewhat agitated due to tube and awareness, after
   ET tube removed will  reevaluate need for further anti-hypertensives
   # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and after some slow improvement has started to
   improve again consistent with pre-renal failure.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Arterial line erythema:  Will send blood cultures (though patient
   afebrile) from A line and IJ and plan to place peripherals, eventually
   pull IJ, and pull A-line tomorrow after checking ABG on trach.
   # Anemia:  Hct 25.8 and near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor
   # FEN: Dobhoff placed, continue tube foods
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-16 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-2-16**] 12:39 AM
   Pantoprazole (Protonix) - [**2113-2-16**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-16**] 08:17 AM
   Fentanyl - [**2113-2-16**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-16**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 81 (63 - 91) bpm
   BP: 117/47(67) {117/47(67) - 187/76(116)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,084 mL
                                                                    163 mL
   PO:
             TF:
                                                                    262 mL
   IVF:
                                                                    662 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,280 mL
   Urine:
                                                                  1,510 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -576 mL
                                                                 -1,117 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 329 (329 - 493) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   296 K/uL
   71 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.0 mEq/L
   27 mg/dL
   105 mEq/L
   142 mEq/L
   25.8 %
   4.8 K/uL
        [image002.gif]
                             [**2113-2-12**]  04:43 AM
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
   WBC
   5.5
   6.1
   6.0
   4.9
   4.8
   Hct
   25.1
   25.4
   27.7
   25.3
   25.8
   Plt
   [**Telephone/Fax (3) 8126**]09
   296
   Cr
   1.8
   1.5
   1.5
   1.5
   1.6
   TCO2
   28
   29
   31
   33
   32
   Glucose
   128
   110
   97
   78
   71
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR - Bilteral lower lung field airspace disease with
   effusions.  Slightly improving.
   Microbiology: No new data
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Patient and
   family have decided that he wants to be trached.
   # Hypercapnic respiratory failure:  Likely due to neuromuscular
   weakness (NIF [**8-24**]) c/b PNA and effusions.  Has failed 2 trials of
   extubation, so now the getting trached.
   - Fentanyl boluses prn
   - PS as tolerated
   - Plan for trach today by IP
   - S/p Dophoff for feeding
 deferred PEG
   - S/p vanc for MRSA PNA x 14 days
   - Diuresis as tolerated (consider albumin/lasix if not responding)
   #Delerium: Afebrile
   - Blood cultures
   - Vanco x 1 dose
   - PIVx and try to get CL out
   # Anemia:  s/p PRBC
   - Will follow
   # [**Last Name (un) **] on CKD: Creatinine slowly coming down.
   - Renally dose medications
   - Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #Afib/HTN: On home regimen.  Persistently hypertensive, but likely [**1-30**]
   agitation from tube, so will follow
   #FEN: dophoff with TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2113-02-17 07:25:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, Pneumonia
   24 Hour Events:
 BLOOD CULTURED - At [**2113-2-16**] 11:12 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2113-2-16**] 02:30 PM
   -Trach placed by IP- granulation tissue and tracheal stenosis from
   prior trach.
   -s/p trach, pt agitated. Given 25 fentanyl x1 at dtrs request for
   agitation
   - Gave Vanco x1 for line ppx. Plan on checking level in am and redosing
   if needed.
   -tried to place PIVs but nursing couldn't get it. IV team called but
   too busy and unable to come by. Will try again tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-16**] 12:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-16**] 08:16 AM
   Midazolam (Versed) - [**2113-2-16**] 02:00 PM
   Vecuronium - [**2113-2-16**] 02:30 PM
   Propofol - [**2113-2-16**] 03:00 PM
   Fentanyl - [**2113-2-17**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-17**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-17**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 67 (55 - 91) bpm
   BP: 162/59(94) {107/39(58) - 172/68(103)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,471 mL
                                                                    550 mL
   PO:
             TF:
                                                                    328 mL
                                                                    477 mL
   IVF:
                                                                    994 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    485 mL
   Urine:
                                                                  1,825 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -579 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 226 (226 - 568) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   274 K/uL
   7.6 g/dL
   125 mg/dL
   1.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   29 mg/dL
   107 mEq/L
   142 mEq/L
   24.0 %
   4.6 K/uL
        [image002.jpg]
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
   WBC
   6.1
   6.0
   4.9
   4.8
   4.6
   Hct
   25.4
   27.7
   25.3
   25.8
   24.0
   Plt
   354
   348
   309
   296
   274
   Cr
   1.5
   1.5
   1.5
   1.6
   1.7
   TCO2
   28
   29
   31
   33
   32
   Glucose
   110
   97
   78
   71
   125
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, ASPIRATION
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Though the patient initially
   presented with hypoxemic respiratory failure his [**Last Name 8039**] problem during
   his stay here has been hypercarbic respiratory failure that led to
   initial intubation and then was the primary reason he failed extubation
   x2 (Intubated first on [**2-1**]; extubated unsuccessfully on [**2-5**] and [**2-9**]).
   There was a questionable contribution of sedating meds to his initial
   hypventilatory failure but most likely due to general neuromuscular
   weakness (polyneuropathy documented), chronic illness and/ or
   malnutrition.
   -will need trach and pulmonary rehab
   # Pneumonia: Patient has collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.
   - continue to follow
   #Pulmonary edema: Patient with bilateral pulmonary edema on chest
   radiograph and trace lower extremity edema.  We will attempt gentle
   diuresis today after his trach placement.  If poor response to bolus
   furosemide would consider albumin to pull fluid intravascular prior to
   further boluses due to assumed low colloid pressure.
   -Goal I/O is -500-1000ml
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.  A-line BP reads higher
   measurement than manual cuff.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  norvasc (started [**2-8**])
   -Patient currently somewhat agitated due to tube and awareness, after
   ET tube removed will  reevaluate need for further anti-hypertensives
   # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and after some slow improvement has started to
   improve again consistent with pre-renal failure.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Arterial line erythema:  Will send blood cultures (though patient
   afebrile) from A line and IJ and plan to place peripherals, eventually
   pull IJ, and pull A-line tomorrow after checking ABG on trach.
   # Anemia:  Hct 25.8 and near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor
   # FEN: Dobhoff placed, continue tube foods
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Fibersource HN (Full) - [**2113-2-17**] 02:38 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-17 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2113-2-16**] 11:12 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2113-2-16**] 02:30 PM
   Vanco x 1 dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-16**] 12:30 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2113-2-16**] 02:00 PM
   Vecuronium - [**2113-2-16**] 02:30 PM
   Propofol - [**2113-2-16**] 03:00 PM
   Fentanyl - [**2113-2-17**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-17**] 06:06 AM
   Pantoprazole (Protonix) - [**2113-2-17**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-17**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 60 (55 - 78) bpm
   BP: 140/50(77) {109/40(62) - 172/64(99)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,471 mL
                                                                    917 mL
   PO:
             TF:
                                                                    328 mL
                                                                    672 mL
   IVF:
                                                                    994 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    705 mL
   Urine:
                                                                  1,825 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -579 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 226 (226 - 568) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///31/
   NIF: -13 cmH2O
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   274 K/uL
   125 mg/dL
   1.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   29 mg/dL
   107 mEq/L
   142 mEq/L
   24.0 %
   4.6 K/uL
        [image002.jpg]
                             [**2113-2-12**]  09:10 AM
                             [**2113-2-12**]  06:20 PM
                             [**2113-2-13**]  04:28 AM
                             [**2113-2-13**]  05:06 AM
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
   WBC
   6.1
   6.0
   4.9
   4.8
   4.6
   Hct
   25.4
   27.7
   25.3
   25.8
   24.0
   Plt
   354
   348
   309
   296
   274
   Cr
   1.5
   1.5
   1.5
   1.6
   1.7
   TCO2
   28
   29
   31
   33
   32
   Glucose
   110
   97
   78
   71
   125
   Other labs: PT / PTT / INR:13.1/28.1/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:57.1 %, Lymph:33.1 %, Mono:5.3 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: No imaging this am.
   Microbiology: No new data.  Blood cultures pending.
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Patient and
   family have decided that he wants to be trached.
   # Hypercapnic respiratory failure:  Likely due to neuromuscular
   weakness (NIF [**8-24**]) c/b PNA and effusions.  Has failed 2 trials of
   extubation, so now s/p trach ([**2-16**]).
   - Fentanyl boluses prn
   - TC as tolerated
   - S/p Dophoff for feeding
 deferred PEG
   - S/p vanc for MRSA PNA x 14 days
   - Diuresis as tolerated (consider albumin/lasix if not responding)
   - Will need to be seen by IP prior to decannulation given concerns over
   scar tissue from first trach limiting his extubation
   #Delerium: Afebrile. Improving
   - PIV and try to get CL out
   - Remove a line
   - Vanc dose today
   # Anemia:  s/p PRBC
   - Will follow
   # [**Last Name (un) **] on CKD: Creatinine slightly increased with diuresis.
   - Renally dose medications
   - Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #FEN: dophoff with TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-2-1**] 12:06 PM
   Multi Lumen - [**2113-2-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code, Family updated last night regarding trach and
   follow up in future with IP service when time to decannulate
   Disposition :ICU
   Total time spent: 20 minutes

2113-02-18 08:22:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure, Hypercarbic respiratory
   failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2113-2-17**] 09:41 PM
   - got dose of vanc
   - tolerated trach mask with reasonable ABG: 7.40/52/90
   - Rested overnight on PS (did not tolerate AC well)
   - PIV placed
   Patient unable to provide history: trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-17**] 02:32 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-17**] 08:42 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-18**] 06:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-18**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 70 (63 - 88) bpm
   BP: 129/49(69) {125/49(66) - 153/67(110)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,898 mL
                                                                    562 mL
   PO:
             TF:
                                                                  1,288 mL
                                                                    522 mL
   IVF:
                                                                    450 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    535 mL
   Urine:
                                                                  1,315 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     93 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 475 (475 - 520) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/52/90/32/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic, NG tube, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Rhonchorous: ), Few crackles and rhonchi
   L>R
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy in place
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   284 K/uL
   7.7 g/dL
   124 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.3 mEq/L
   30 mg/dL
   105 mEq/L
   141 mEq/L
   24.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
   WBC
   6.0
   4.9
   4.8
   4.6
   5.3
   Hct
   27.7
   25.3
   25.8
   24.0
   24.4
   Plt
   348
   309
   296
   274
   284
   Cr
   1.5
   1.5
   1.6
   1.7
   1.7
   TCO2
   33
   32
   33
   34
   33
   Glucose
   97
   78
   71
   125
   124
   Other labs: PT / PTT / INR:13.3/29.2/1.1, Differential-Neuts:52.6 %,
   Lymph:35.5, Mono:7.7, Eos:3.8, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
    # Hypercapnic respiratory failure:  Low NIF
s and recurrently
   ventilatory failure soon after extubation with other etiologies
   excluded seems to suggest primary muscle weakness (EEG performed to
   rule out secondary causes).  Patient has been trached due to need for
   prolonged ventilatory support  and will go to rehab for further
   pulmonary rehab.
    # Pneumonia: Patient had collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.  No fevers, chills, or signs of
   active infection.
    #Pulmonary edema: Patient has had pulmonary edema previously and
   continues to have trace lower extremity edema.  We will continue to
   monitor respiratory status and attempt gentle diuresis as tolerated.
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  amlodipine (started [**2-8**])
   # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and improved with hydration (Cr down to 1.5) but has
   mildly worsened with attempted diuresis.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   -10 mg furosemide IV *1 in order to attempt to remedy persistent lower
   extremity edema
   # Arterial line erythema:  A-line removed and cultures remained
   negative.  Patient did receive two doses of cautionary vancomycin.
    # Anemia:  Hct 24.4 and near baseline of 25-27.  Will follow.
    #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor
   # FEN: Dobhoff placed, continue tubefeeds
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   #Dispo: Screening for rehab underway
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-18**] 05:53 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-2-1**] 12:30 PM
   20 Gauge - [**2113-2-17**] 03:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-18 12:13:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2113-2-17**] 09:41 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-17**] 02:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-18**] 06:31 AM
   Pantoprazole (Protonix) - [**2113-2-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-18**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 74 (68 - 88) bpm
   BP: 126/64(76) {125/49(66) - 153/67(110)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,898 mL
                                                                    950 mL
   PO:
             TF:
                                                                  1,288 mL
                                                                    780 mL
   IVF:
                                                                    450 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    665 mL
   Urine:
                                                                  1,315 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     93 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Tracheostomy tube
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 475 (475 - 520) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/52/90.[**Numeric Identifier 128**]/32/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   284 K/uL
   124 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.3 mEq/L
   30 mg/dL
   105 mEq/L
   141 mEq/L
   24.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2113-2-14**]  06:25 AM
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
   WBC
   6.0
   4.9
   4.8
   4.6
   5.3
   Hct
   27.7
   25.3
   25.8
   24.0
   24.4
   Plt
   348
   309
   296
   274
   284
   Cr
   1.5
   1.5
   1.6
   1.7
   1.7
   TCO2
   33
   32
   33
   34
   33
   Glucose
   97
   78
   71
   125
   124
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Pt
   trached.
    # Hypercapnic respiratory failure:
   - Likely due to neuromuscular weakness (NIF [**8-24**]) c/b PNA and
   effusions.
   - Has failed 2 trials of extubation, so now s/p trach
   - Fentanyl boluses prn
   - TC as tolerated
   - S/p Dophoff for feeding
 deferred PEG
   - S/p vanc for MRSA PNA x 14 days
   - Diuresis as tolerated (consider albumin/lasix if not responding)
   - Will need to be seen by IP prior to decannulation given concerns over
   scar tissue from first trach limiting his extubation
   #Delerium: Afebrile. Improving
   - PIV and try to get CL out
   - Remove CVL
   - Vanc dose today
   # Anemia:  s/p PRBC
   - Will follow
   # Renal:
   - Creatinine slightly increased with diuresis.
   - Renally dose medications
   - Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #FEN: dophoff with TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-18**] 05:53 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-2-1**] 12:30 PM
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2113-02-19 08:24:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 MULTI LUMEN - STOP [**2113-2-18**] 12:22 PM
   -Did well on trach mask w/ multiple family visitors
   -Delirious/agitated overnight despite quetiapine so received olanzapine
   2.5 mg PO *1 w/some improvement
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-17**] 02:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-19**] 05:04 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain, otherwise limited [**1-30**] trach
   Flowsheet Data as of  [**2113-2-19**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 61 (61 - 90) bpm
   BP: 116/43(62) {116/40(61) - 157/93(97)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,838 mL
                                                                    600 mL
   PO:
                  TF:
                                                                  1,578 mL
                                                                    540 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    440 mL
   Urine:
                                                                  1,420 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -112 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (398 - 6,000) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   266 K/uL
   7.7 g/dL
   109 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   33 mg/dL
   106 mEq/L
   144 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
   WBC
   4.9
   4.8
   4.6
   5.3
   5.7
   Hct
   25.3
   25.8
   24.0
   24.4
   24.3
   Plt
   [**Telephone/Fax (3) 8164**]84
   266
   Cr
   1.5
   1.6
   1.7
   1.7
   1.7
   TCO2
   33
   32
   33
   34
   33
   Glucose
   78
   71
   125
   124
   109
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, ASPIRATION
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
    # Hypercapnic respiratory failure:  Low NIF
s and recurrently
   ventilatory failure soon after extubation with other etiologies
   excluded seems to suggest primary muscle weakness (EEG performed to
   rule out secondary causes).  Patient has been trached due to need for
   prolonged ventilatory support  and will go to rehab for further
   pulmonary rehab. Blood gas this afternoon shows hypercarbia but primary
   metabolic alkalosis with resp compensation 7.44/50/ 109/35
    # Pneumonia: Patient had collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.  No fevers, chills, or signs of
   active infection.
    #Pulmonary edema: Patient has had pulmonary edema previously and
   continues to have trace lower extremity edema.  We will continue to
   monitor respiratory status and attempt gentle diuresis as tolerated.
   No need for diuresis today
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  amlodipine (started [**2-8**])
   # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and improved with hydration (Cr down to 1.5) but has
   mildly worsened with attempted diuresis. Have not been diuresing for
   several days.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Arterial line erythema:  A-line removed and cultures remained
   negative.  Patient did receive two doses of cautionary vancomycin.
    # Anemia:  Hct 24.4 and near baseline of 25-27.  Will follow.
    #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.
   - continue to monitor- family wants foley out prior to d/c . Will d/w
   urology on Monday
   # FEN: Dobhoff placed, continue tubefeeds
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   #Dispo: Screening for rehab underway
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-19**] 04:39 AM 65 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-19 12:36:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 Delerious o/n received antipsychotics
 A little more 'groggy' this morning
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-17**] 02:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-19**] 05:04 AM
   Pantoprazole (Protonix) - [**2113-2-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-19**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 66 (61 - 90) bpm
   BP: 113/50(66) {111/40(61) - 157/93(99)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,838 mL
                                                                  1,002 mL
   PO:
             TF:
                                                                  1,578 mL
                                                                    782 mL
   IVF:
                                                                     50 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    800 mL
   Urine:
                                                                  1,420 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -112 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 444 (398 - 6,000) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 6.4 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   266 K/uL
   109 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   33 mg/dL
   106 mEq/L
   144 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2113-2-14**]  09:18 AM
                             [**2113-2-15**]  05:00 AM
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
   WBC
   4.9
   4.8
   4.6
   5.3
   5.7
   Hct
   25.3
   25.8
   24.0
   24.4
   24.3
   Plt
   [**Telephone/Fax (3) 8164**]84
   266
   Cr
   1.5
   1.6
   1.7
   1.7
   1.7
   TCO2
   33
   32
   33
   34
   33
   Glucose
   78
   71
   125
   124
   109
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Pt
   trached.
   # Hypercapnic respiratory failure:
   - Likely due to neuromuscular weakness (NIF [**8-24**]) c/b PNA and
   effusions.
   - Failed 2 trials of extubation -> trach
   - Fentanyl boluses prn
   - TC as tolerated
   - S/p Dophoff for feeding
 deferred PEG
   - S/p vanc for MRSA PNA x 14 days
   - Diuresis as tolerated (consider albumin/lasix if not responding)
   - Will need to be seen by IP prior to decannulation given concerns over
   scar tissue from first trach limiting his extubation
   - Check ABG if able
   #Delerium:
   - sundowning at night
   - treat w/ low dose of usual agents -- family concerned about daytime
   goggy daytime
    # Anemia:  s/p PRBC
   - Will follow
   # Renal:
   - Creatinine stable - slightly increased with diuresis.
   - Renally dose medications
   - Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #FEN: dophoff with TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-19**] 04:39 AM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2113-02-20 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
   [**2113-2-18**]:
   -Did well on trach mask w/ multiple family visitors
   -Delirious/agitated overnight despite quetiapine so received olanzapine
   2.5 mg PO *1 w/some improvement
   _______________________________
   [**2-19**]
   - Family very angry during day re: Zyprexa and Seroquel use overnight
   Sat night
   - ABG in afternoon 7.44/50/109/35
   -PPI changed to Lansoprazole
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-17**] 02:32 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-2-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-2-20**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-20**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 79 (61 - 89) bpm
   BP: 138/60(80) {111/45(65) - 153/91(99)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,950 mL
                                                                    674 mL
   PO:
                  TF:
                                                                  1,580 mL
                                                                    494 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    980 mL
   Urine:
                                                                  1,500 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   RR (Spontaneous): 16
   FiO2: 50%
   SpO2: 100%
   ABG: 7.44/50/109/32/7
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   310 K/uL
   8.6 g/dL
   108 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.7 mEq/L
   34 mg/dL
   105 mEq/L
   142 mEq/L
   26.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
                             [**2113-2-19**]  04:56 PM
                             [**2113-2-20**]  04:20 AM
   WBC
   4.8
   4.6
   5.3
   5.7
   5.2
   Hct
   25.8
   24.0
   24.4
   24.3
   26.7
   Plt
   296
   274
   284
   266
   310
   Cr
   1.6
   1.7
   1.7
   1.7
   1.6
   TCO2
   32
   33
   34
   33
   35
   Glucose
   71
   125
   124
   109
   108
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Low NIF
s and recurrently
   ventilatory failure soon after extubation with other etiologies
   excluded seems to suggest primary muscle weakness (EEG performed to
   rule out secondary causes and demonstrated polyneuropathy).  Patient
   trached on [**2-16**] and has tolerated trach mask well without need for
   ventilator since [**2113-2-19**].
   - S&S eval for Passy-Muir valve
   # Pneumonia: Patient had collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.  No fevers, chills, or signs of
   active infection.
   #Pulmonary edema: Patient has had pulmonary edema previously and
   continues to have trace lower extremity edema.  [**Month (only) 60**] be secondary to
   hypoalbuminemia given ECHO in [**2-6**] showing normal LV systolic and
   diastolic function.  We will continue to monitor respiratory status and
   attempt gentle diuresis as tolerated.
   - lasix 10 mg IV x [**4-28**] need low dose lasix for maintenance
   # Insomnia:  Asked by family not to give seroquel after patient was
   somnolent in the setting of seroquel administration on [**2-19**].  However,
   patient expresses desire for sleep-inducing medication.
   - touch base with family re: restarting seroquel
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  amlodipine (started [**2-8**])
   # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and improved with hydration (Cr down to 1.5) but has
   mildly worsened with attempted diuresis. Have not been diuresing for
   several days.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Arterial line erythema:  A-line removed and cultures remained
   negative.  Patient did receive two doses of cautionary vancomycin.
   # Anemia:  Hct near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.  Also, urology requests that patient follow-up as outpatient
   for removal of foley.
   - touch base with urology to confirm foley management plan
   # FEN: Dobhoff placed, continue tube feeds
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   #Dispo: Screening for rehab underway
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-20**] 03:25 AM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-02-20 12:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - S/p olanzipine and seroquel for delerium/insomnia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-2-17**] 02:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-20**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-20**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 82 (61 - 89) bpm
   BP: 149/66(87) {116/45(65) - 153/77(96)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,950 mL
                                                                  1,129 mL
   PO:
                  TF:
                                                                  1,580 mL
                                                                    799 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,600 mL
   Urine:
                                                                  1,500 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                   -471 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Trach mask
   Ventilator mode: Standby
   RR (Spontaneous): 16
   FiO2: 50%
   SpO2: 100%
   ABG: 7.44/50/109/32/7
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   310 K/uL
   108 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.7 mEq/L
   34 mg/dL
   105 mEq/L
   142 mEq/L
   26.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2113-2-15**]  10:00 AM
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
                             [**2113-2-19**]  04:56 PM
                             [**2113-2-20**]  04:20 AM
   WBC
   4.8
   4.6
   5.3
   5.7
   5.2
   Hct
   25.8
   24.0
   24.4
   24.3
   26.7
   Plt
   296
   274
   284
   266
   310
   Cr
   1.6
   1.7
   1.7
   1.7
   1.6
   TCO2
   32
   33
   34
   33
   35
   Glucose
   71
   125
   124
   109
   108
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: No new data.
   Microbiology: No new data.
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Pt
   trached.
   # Hypercapnic respiratory failure:
   - Likely due to neuromuscular weakness (NIF [**8-24**]) c/b PNA and
   effusions.
   - Failed 2 trials of extubation -> trach
   - Fentanyl boluses prn
   - TC as tolerated (family requested pt not be put back on PS)
   - S/p Dophoff for feeding
 deferred PEG
   - S/p vanc for MRSA PNA x 14 days
   - Diuresis as tolerated (consider albumin/lasix if not responding)
   - Will need to be seen by IP prior to decannulation given concerns over
   scar tissue from first trach limiting his extubation
   - Check ABG prn (family requested one be sent yesterday with somnolent)
   - Eval for PMV valve/SLP consult
   #Delerium:
   - sundowning at night
   - treat w/ low dose of usual agents -- family concerned about daytime
   somnolence and requested not using seroquel or olanzipine
   #Foley: Placed by urology under direct visualization/cystoscopy.
   Family desires it removed prior to transfer to rehab, but urology
   recommended to leave it in throughout this hospitalization with
   removal/voiding trial to be done as outpatient.
    # Anemia:  s/p PRBC
   - Will follow
   # Renal:
   - Creatinine stable - slightly increased with diuresis, now trending
   down.
   - Renally dose medications
   - Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #FEN: dophoff with TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-20**] 11:00 AM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2113-02-21 08:05:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failures
   24 Hour Events:
   - S&S consult for Passy-Muir valve delayed till [**2-21**] because S&S
   service was too busy
   - Spoke to [**Doctor First Name 2856**] ([**Telephone/Fax (1) **]) about seroquel - OK w/ seroquel qhs prn
   agitation or insomnia
   - Pulled duboff while asleep around 3 a.m.
   - Soft limb restraints placed b/c of concern he might pull trach.
   (4a.m.)
   Patient unable to provide history: trached
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-2-20**] 06:19 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-20**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-21**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 74 (67 - 93) bpm
   BP: 140/69(86) {125/54(73) - 166/77(102)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,899 mL
                                                                    203 mL
   PO:
                  TF:
                                                                  1,569 mL
                                                                    203 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    745 mL
   Urine:
                                                                  2,980 mL
                                                                    470 mL
   NG:
   Stool:
   275 mL
   Drains:
   Balance:
                                                                 -1,231 mL
                                                                   -542 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100
   ABG: ///34/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   8.7 g/dL
   83 mg/dL
   1.7 mg/dL
   34 mEq/L
   5.2 mEq/L
   35 mg/dL
   102 mEq/L
   140 mEq/L
   27.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
                             [**2113-2-19**]  04:56 PM
                             [**2113-2-20**]  04:20 AM
                             [**2113-2-21**]  05:17 AM
   WBC
   4.8
   4.6
   5.3
   5.7
   5.2
   5.7
   Hct
   25.8
   24.0
   24.4
   24.3
   26.7
   27.7
   Plt
   296
   274
   284
   266
   310
   304
   Cr
   1.6
   1.7
   1.7
   1.7
   1.6
   1.7
   TCO2
   33
   34
   33
   35
   Glucose
   71
   125
   124
   109
   108
   83
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, ASPIRATION
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
    # Hypercapnic respiratory failure:  Low NIF
s and recurrently
   ventilatory failure soon after extubation with other etiologies
   excluded seems to suggest primary muscle weakness (EEG performed to
   rule out secondary causes and demonstrated polyneuropathy).  Patient
   trached on [**2-16**] and has tolerated trach mask well without need for
   ventilator since [**2113-2-19**].
   - S&S eval for Passy-Muir valve
    # Pneumonia: Patient had collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.  No fevers, chills, or signs of
   active infection.
    #Pulmonary edema: Patient has had pulmonary edema previously and
   continues to have trace lower extremity edema.  [**Month (only) 60**] be secondary to
   hypoalbuminemia given ECHO in [**2-6**] showing normal LV systolic and
   diastolic function.  We will continue to monitor respiratory status and
   attempt gentle diuresis as tolerated.
   - lasix 10 mg IV x [**4-28**] need low dose lasix for maintenance
   # Insomnia:  Asked by family not to give seroquel after patient was
   somnolent in the setting of seroquel administration on [**2-19**].  However,
   patient expresses desire for sleep-inducing medication.
   - touch base with family re: restarting seroquel
    #History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  amlodipine (started [**2-8**])
    # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and improved with hydration (Cr down to 1.5) but has
   mildly worsened with attempted diuresis. Have not been diuresing for
   several days.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
    # Arterial line erythema:  A-line removed and cultures remained
   negative.  Patient did receive two doses of cautionary vancomycin.
    # Anemia:  Hct near baseline of 25-27.  Will follow.
    #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.  Also, urology requests that patient follow-up as outpatient
   for removal of foley.
   - touch base with urology to confirm foley management plan
    # FEN: Dobhoff placed, continue tube feeds
    # PPx: heparin SC and continue PPI
    # Communication: W/ [**Name (NI) 2856**], HCP.
    #Dispo: Screening for rehab underway
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-21 11:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pulled Dophoff last night.
   Family okay with seroquel.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-2-20**] 06:19 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-21**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-21**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 64 (64 - 93) bpm
   BP: 138/58(79) {125/54(73) - 166/77(102)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,899 mL
                                                                    203 mL
   PO:
                  TF:
                                                                  1,569 mL
                                                                    203 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    845 mL
   Urine:
                                                                  2,980 mL
                                                                    570 mL
   NG:
   Stool:
   275 mL
   Drains:
   Balance:
                                                                 -1,231 mL
                                                                   -642 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   304 K/uL
   83 mg/dL
   1.7 mg/dL
   34 mEq/L
   5.2 mEq/L
   35 mg/dL
   102 mEq/L
   140 mEq/L
   27.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
                             [**2113-2-19**]  04:56 PM
                             [**2113-2-20**]  04:20 AM
                             [**2113-2-21**]  05:17 AM
   WBC
   4.8
   4.6
   5.3
   5.7
   5.2
   5.7
   Hct
   25.8
   24.0
   24.4
   24.3
   26.7
   27.7
   Plt
   296
   274
   284
   266
   310
   304
   Cr
   1.6
   1.7
   1.7
   1.7
   1.6
   1.7
   TCO2
   33
   34
   33
   35
   Glucose
   71
   125
   124
   109
   108
   83
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro.
   Assessment and Plan
   82 y/o with h/o GI bleed s/p colectomy/respiratory failure/prolonged
   ICU course (5 mo), PE, CVA a/w UTI then tx for hypoxia, tachycardia,
   and altered mental status.  Progressive hypercarbic respiratory
   failure, so intubated ([**2-1**]).  Thick secretions. Did well and extubated
   ([**2-6**]) - progressive hypercarbic failure so reintubated ([**2-7**]) likely
   due to mental status/weakness.  Extubated ([**2-9**]) and reintubated later
   that day
 neuromuscular eval c/w chronic polyneuropathy.  Pt
   trached.
   # Hypercapnic respiratory failure:
   - Likely due to neuromuscular weakness (NIF [**8-24**]) c/b PNA and
   effusions.
   - Failed 2 trials of extubation -> trach
   - Fentanyl boluses prn
   - TC as tolerated (family requested pt not be put back on PS)
   - S/p Dophoff for feeding
 deferred PEG
   - S/p vanc for MRSA PNA x 14 days
   - Will need to be seen by IP prior to decannulation given concerns over
   scar tissue from first trach limiting his extubation
   - Check ABG prn (family requested one be sent yesterday with somnolent)
   - Eval for PMV valve/SLP consult
   #Delerium:
   - sundowning at night
   - treat w/ low dose of usual agents -- family concerned about daytime
   somnolence and requested not using seroquel or olanzipine
   #Foley: Placed by urology under direct visualization/cystoscopy.
   Family desires it removed prior to transfer to rehab, but urology
   recommended to leave it in throughout this hospitalization with
   removal/voiding trial to be done as outpatient.
    # Anemia:  s/p PRBC
   - Will follow
   # Renal:
   - Creatinine stable - slightly increased with diuresis, now trending
   down.
   - Renally dose medications
   - Avoid nephrotoxins (i.e. IV contrast)
   - Continue to follow
   #FEN: dophoff with TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes

2113-02-21 15:26:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   - S&S consult for Passy-Muir valve delayed till [**2-21**] because S&S
   service was too busy
   - Spoke to [**Doctor First Name 2856**] ([**Telephone/Fax (1) **]) about seroquel - OK w/ seroquel qhs prn
   agitation or insomnia
   - Pulled dobhoff while asleep around 3 a.m.
   - Soft limb restraints placed b/c of concern he might pull trach.
   (4a.m.)
   Patient unable to provide history: trach w/o speaking valve
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-2-20**] 06:19 PM
   Heparin Sodium (Prophylaxis) - [**2113-2-21**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-21**] 03:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 74 (64 - 94) bpm
   BP: 140/53(76) {114/50(67) - 166/77(102)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,899 mL
                                                                    203 mL
   PO:
                  TF:
                                                                  1,569 mL
                                                                    203 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                  1,205 mL
   Urine:
                                                                  2,980 mL
                                                                    930 mL
   NG:
   Stool:
   275 mL
   Drains:
   Balance:
                                                                 -1,231 mL
                                                                 -1,002 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diminished crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present, ostomy, large scar
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   304 K/uL
   8.7 g/dL
   83 mg/dL
   1.7 mg/dL
   34 mEq/L
   5.2 mEq/L
   35 mg/dL
   102 mEq/L
   140 mEq/L
   27.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2113-2-16**]  05:02 AM
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
                             [**2113-2-19**]  04:56 PM
                             [**2113-2-20**]  04:20 AM
                             [**2113-2-21**]  05:17 AM
   WBC
   4.8
   4.6
   5.3
   5.7
   5.2
   5.7
   Hct
   25.8
   24.0
   24.4
   24.3
   26.7
   27.7
   Plt
   296
   274
   284
   266
   310
   304
   Cr
   1.6
   1.7
   1.7
   1.7
   1.6
   1.7
   TCO2
   33
   34
   33
   35
   Glucose
   71
   125
   124
   109
   108
   83
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
    # Hypercapnic respiratory failure:  Low NIF
s and recurrently
   ventilatory failure soon after extubation with other etiologies
   excluded seems to suggest primary muscle weakness (EEG performed to
   rule out secondary causes and demonstrated polyneuropathy).  Patient
   trached on [**2-16**] and has tolerated trach mask well without need for
   ventilator since [**2113-2-19**].
   - Did well with Passy-Muir today for brief periods
   # Pneumonia: Patient had collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.  No fevers, chills, or signs of
   active infection.
   -monitor, recheck CXR tomorrow
   #Pulmonary edema: Patient has had pulmonary edema previously and
   continues to have trace lower extremity edema.  [**Month (only) 60**] be secondary to
   hypoalbuminemia given ECHO in [**2-6**] showing normal LV systolic and
   diastolic function.  We will continue to monitor respiratory status and
   hold diuresis today due to elevated Cr
   -keep fluid balance equal today
   - may need low dose lasix for maintenance
   # Insomnia:  Asked by family not to give seroquel after patient was
   somnolent in the setting of seroquel administration on [**2-19**].  However,
   patient expresses desire for sleep-inducing medication.  Family
   reluctantly agreed.
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  amlodipine (started [**2-8**])
   # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and improved with hydration (Cr down to 1.5) but has
   mildly worsened with attempted diuresis.   Holding diueresis and aiming
   for goal I and O of equal.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Arterial line erythema:  A-line removed and cultures remained
   negative.  Patient did receive two doses of cautionary vancomycin.
   # Anemia:  Hct near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.  Also, urology requests that patient follow-up as outpatient
   for removal of foley.
   - touch base with urology to confirm foley management plan
   # FEN: Dobhoff placed, continue tube feeds
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   #Dispo: Screening for rehab underway
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-02-22 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 y/o man with recent major GI bleed w/prolonged
   hospitalization who is admitted to the [**Hospital Unit Name 44**] as a transfer from the
   floor for agitation, hypoxia, tachycardia.
   24 Hour Events:
   -Got fitted for PM valve
   -Possibly to Radius tomorrow if bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-2-21**] 10:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-2-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 75 (64 - 110) bpm
   BP: 92/43(56) {92/43(56) - 162/127(133)} mmHg
   RR: 17 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 86.2 kg
   Height: 71 Inch
                  Total In:
                                                                    458 mL
                                                                    469 mL
   PO:
                  TF:
                                                                    398 mL
                                                                    469 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                    730 mL
   Urine:
                                                                  1,690 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
   Balance:
                                                                 -1,687 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   290 K/uL
   9.7 g/dL
   106 mg/dL
   1.6 mg/dL
   34 mEq/L
   4.9 mEq/L
   34 mg/dL
   101 mEq/L
   139 mEq/L
   29.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2113-2-17**]  04:38 AM
                             [**2113-2-17**]  12:16 PM
                             [**2113-2-17**]  02:14 PM
                             [**2113-2-17**]  04:11 PM
                             [**2113-2-18**]  03:56 AM
                             [**2113-2-19**]  03:36 AM
                             [**2113-2-19**]  04:56 PM
                             [**2113-2-20**]  04:20 AM
                             [**2113-2-21**]  05:17 AM
                             [**2113-2-22**]  03:45 AM
   WBC
   4.6
   5.3
   5.7
   5.2
   5.7
   6.1
   Hct
   24.0
   24.4
   24.3
   26.7
   27.7
   29.5
   Plt
   274
   284
   266
   [**Telephone/Fax (3) 8199**]
   Cr
   1.7
   1.7
   1.7
   1.6
   1.7
   1.6
   TCO2
   33
   34
   33
   35
   Glucose
   125
   124
   109
   108
   83
   106
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:[**7-9**], Alk Phos / T
   Bili:58/0.2, Differential-Neuts:52.6 %, Lymph:35.5 %, Mono:7.7 %,
   Eos:3.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:112 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   82 y/o man with recent major GI bleed w/prolonged hospitalization who
   is admitted to the [**Hospital Unit Name 44**] as a transfer from the floor for agitation,
   hypoxia, tachycardia.
   # Hypercapnic respiratory failure:  Low NIF
s and recurrently
   ventilatory failure soon after extubation with other etiologies
   excluded seems to suggest primary muscle weakness (EEG performed to
   rule out secondary causes and demonstrated polyneuropathy).  Patient
   trached on [**2-16**] and has tolerated trach mask well without need for
   ventilator since [**2113-2-19**].
   - Did well with Passy-Muir today for brief periods
   # Pneumonia: Patient had collapsed left lower lobe secondary to staph
   aureus (MRSA) pneumonia and likely mucus plug.  He has completed a 14
   day course of vancomycin for this.  No fevers, chills, or signs of
   active infection.
   -monitor, recheck CXR tomorrow
   #Pulmonary edema: Patient has had pulmonary edema previously and
   continues to have trace lower extremity edema.  [**Month (only) 60**] be secondary to
   hypoalbuminemia given ECHO in [**2-6**] showing normal LV systolic and
   diastolic function.  We will continue to monitor respiratory status and
   hold diuresis today due to elevated Cr
   -keep fluid balance equal today
   - may need low dose lasix for maintenance
   # Insomnia:  Asked by family not to give seroquel after patient was
   somnolent in the setting of seroquel administration on [**2-19**].  However,
   patient expresses desire for sleep-inducing medication.  Family
   reluctantly agreed.
   # History of Afib/HTN:  Currently in NSR.  Not anticoagulated per
   patient choice despite history of stroke.
   -Continue metoprolol with good holding parameters in order to avoid
   risks of Afib with RVR.
   -Cont  amlodipine (started [**2-8**])
   # [**Last Name (un) **] on CKD: Patient is mildly worsened from baseline Cr of 1.4-1.5
   and has been since presentation.  Initially appeared consistent with
   pre-renal failure and improved with hydration (Cr down to 1.5) but has
   mildly worsened with attempted diuresis.   Holding diueresis and aiming
   for goal I and O of equal.
   -Renally dose medications
   -avoid nephrotoxins (i.e. IV contrast)
   # Arterial line erythema:  A-line removed and cultures remained
   negative.  Patient did receive two doses of cautionary vancomycin.
   # Anemia:  Hct near baseline of 25-27.  Will follow.
   #Pyuria: Patient with leukocyte esterase and pyuria on UA but culture
   only growing yeast.  This is most likely a contaminant.  Coude foley
   placed on [**2113-2-7**] by urology, will not change for moment as unable to
   replace.  Also, urology requests that patient follow-up as outpatient
   for removal of foley.
   - touch base with urology to confirm foley management plan
   # FEN: Dobhoff placed, continue tube feeds
   # PPx: heparin SC and continue PPI
   # Communication: W/ [**Name (NI) 2856**], HCP.
   #Dispo: Screening for rehab underway
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-2-21**] 09:00 PM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-2-17**] 08:17 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: